2200-04-05 08:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2200-4-4**] 12:13 PM
 PICC LINE - START [**2200-4-4**] 02:00 PM
   IV team placing PICC line in right basillic vein
 ARTERIAL LINE - START [**2200-4-4**] 03:00 PM
 NON-INVASIVE VENTILATION - STOP [**2200-4-4**] 03:30 PM
 INVASIVE VENTILATION - START [**2200-4-4**] 03:35 PM
 BRONCHOSCOPY - At [**2200-4-4**] 04:15 PM
 DIALYSIS CATHETER - START [**2200-4-4**] 05:30 PM
   Pt. placed on CVVH however pressures unable to tolerate much fluid
   movement.  PEEP increased to 15 today, suctioning copious amounts of
   red tinged sputum
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2200-4-4**] 06:00 PM
   Aztreonam - [**2200-4-5**] 06:06 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Phenylephrine - 3.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-4**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-5**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.4
C (95.7
   HR: 61 (55 - 73) bpm
   BP: 87/67(76) {73/53(30) - 126/118(240)} mmHg
   RR: 35 (0 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,666 mL
                                                                  1,448 mL
   PO:
             TF:
   IVF:
                                                                  1,576 mL
                                                                  1,388 mL
   Blood products:
   Total out:
                                                                     43 mL
                                                                  1,173 mL
   Urine:
                                                                     43 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,623 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 451 (400 - 500) mL
   Vt (Spontaneous): 420 (420 - 420) mL
   PS : 10 cmH2O
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 29 cmH2O
   Compliance: 23.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.33/35/89.[**Numeric Identifier 299**]/18/-6
   Ve: 14.9 L/min
   PaO2 / FiO2: 148
   Physical Examination
   Gen: Intubated, sedated
   Neck:  unable to assess JVP d/t edema
   Pulm:  coarse with rhonchi bilaterally anteriorly
   CV:  RRR
   Peripheral Vascular: pulses intact, however extremely edematous
   edema over almost entire body
   Skin:  warm, edematous
   Neurologic: sedated, intubated
   Labs / Radiology
   77 K/uL
   8.6 g/dL
   92 mg/dL
   3.2 mg/dL
   18 mEq/L
   4.7 mEq/L
   51 mg/dL
   101 mEq/L
   129 mEq/L
   25.8 %
   9.4 K/uL
                             [**2200-4-4**]  02:37 PM
                             [**2200-4-4**]  02:51 PM
                             [**2200-4-4**]  03:52 PM
                             [**2200-4-4**]  07:18 PM
                             [**2200-4-4**]  07:36 PM
                             [**2200-4-5**]  01:32 AM
                             [**2200-4-5**]  01:51 AM
                             [**2200-4-5**]  05:37 AM
                             [**2200-4-5**]  05:59 AM
   WBC
   7.9
   11.8
   9.4
   Hct
   26.0
   26.1
   25.8
   Plt
   71
   91
   77
   Cr
   3.2
   3.4
   3.2
   TCO2
   19
   16
   19
   19
   Glucose
   100
   98
   129
   111
   93
   92
   Other labs: PT / PTT / INR:20.2/54.8/1.9, ALT / AST:[**1-18**], Alk Phos / T
   Bili:65/2.3, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL, LDH:198 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   45 y/o F with HIV and Hep C cirrhosis who presents from OSH for
   management of SBP and HRS who had acute respiratory decompensation in
   the setting of fluid overload.  At time of this note, does not have
   access and will be priority to attempt peripheral IV for now.  See
   below for discussion of other current issues.
   .
   #Hypotension: Pt persistently hypotensive since initiation of CVVH,
   etiology unclear but differential includes septic shock, adrenal
   insufficiency, cardiogenic shock, hepatorenal syndrome, auto PEEP.
   - Will do cortisol stimulation test today to eval for adrenal
   insufficiency
   - ECHO to eval for structural heart disease
   - Continuing on Neosynephrine
   # Respiratory Distress: most likely from fluid overload, although chest
   xray is consistent with possible ARDS.  She is in oliguric renal
   failure and no responding to diuretics.
   - continue bipap for now, but unlikely to tolerate in long run
   - elective intubation for procedures including placement of HD line
   - Will attempt to remove fluid via CVVH as BP tolerates
   - serial CXRs
   - place a-line for ABG monitoring
   - continuing Vanc/Aztreonam/Cipro
   - Will f/u blood cx, f/u BAL results
   .
   # ARF: likely is oliguric renal failure secondary to hepatic renal
   syndrome.  Unclear when patient stopped making urine.  She is on
   octreotide and midodrine.  Electrolytes stable with K+ of 5 today.
   - continue octreotide and midodrine
   - renal consult following
   - place HD line for potential CVVH vs. HD for volume removal
   - continue sevelemer
   - consider sodium bicarb replacement for metabolic acidosis
   .
   # Hep C / Cirrhosis: has complicated Hep C cirrhosis with ascites and
   drain on R side of abdomen, s/p TIPS procedures and coagulopathy.
   - liver recs
   - continue SBP treatment as outlined below
   - follow up liver US with Doppler-
 no ascites
   - trend LFTs
   .
   # SBP: has hx of SBP from outside hospital and was being treated with
   ciprofloxacin.  Vanco added last night for broader coverage.
   - obtain culture data from outside hospital
   - continue current abx
   - consider diagnostic tap, abdomen exam benign here
   - albumin daily once respiratory status stabalized
   .
   # Anemia: has anemia from unknown source.  Likely is multifactorial
   with possible bleed from either GI or other source.  Also likely low
   production in the setting of chronic disease.  Is s/p transfusion
   without appropriate bump in hct.  Was transfused 2 u PRBCs at OSH.
   - continue serial hcts, q8h
   - transfuse for hct <21
   - add on iron studies, vit b12, folate
   - guiac all stools
   - continue protonix
   .
   # Thrombocytopenia: in the setting of chronic liver disease; has
   evidence of bleeding although the source in not obvious.  Will be
   having HD line placed today.
   - transfuse 1 u platelets pre-procedure if possible
   - Will check PM CBC
   - will give one dose of DDAVP
   # Coagulopathy: again in the setting of chronic liver disease; INR 1.8
   today and will be undergoing HD line placement.
   - vit k daily
   - transfuse two units FFP pre-procedure if possible
   # HIV: stable, CD4 count high without evidence of AIDS.
   - holding all HIV meds, given NPO status
   .
   # Hypothyroidism: TSH here 3.5, not probably accurate in setting of an
   accute illness.
   - continue home levothyroxine dose
   # COPD: likely all fluid overload
   - consider nebulizers as needed
   # FEN: No IVF, replete electrolytes per renal, NPO
   # Prophylaxis: pneumoboots, no SQ hep in setting of coagulopathy
   # Access: one peripheral, will need HD line placed and central access
   either with PICC line v. CVL
   # Communication: Patient; HCP is son, although note that son does not
   know HIV or Hep C status
   # Code:  Full (discussed with patient this morning while in respiratory
   distress).  Per report was confirmed last night as well.
   # Disposition: ICU pending clinical improvement

2200-04-07 11:23:00 Physician Attending Progress Note
Chief Complaint: Liver failure, renal failure, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on CVVH
   24 Hour Events:
   Lactate 3.6 this AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2200-4-6**] 05:00 PM
   Aztreonam - [**2200-4-7**] 06:00 AM
   Vancomycin - [**2200-4-7**] 10:00 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-4-7**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.5
C (95.9
   HR: 60 (59 - 65) bpm
   BP: 121/70(89) {88/54(67) - 121/76(92)} mmHg
   RR: 8 (0 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 120 kg
   Height: 65 Inch
   CVP: 20 (9 - 20)mmHg
   Total In:
                                                                  3,927 mL
                                                                  1,881 mL
   PO:
   TF:
                                                                    120 mL
                                                                    159 mL
   IVF:
                                                                  3,597 mL
                                                                  1,662 mL
   Blood products:
   Total out:
                                                                  7,831 mL
                                                                  2,507 mL
   Urine:
                                                                     35 mL
                                                                     50 mL
   NG:
   Stool:
                                                                     20 mL
   Drains:
                                                                  2,600 mL
                                                                    210 mL
   Balance:
                                                                 -3,904 mL
                                                                   -626 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 401 (400 - 401) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 32.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/32/147/23/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 294
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   43 K/uL
   140 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   22 mg/dL
   100 mEq/L
   132 mEq/L
   26.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2200-4-6**]  05:51 AM
                             [**2200-4-6**]  11:37 AM
                             [**2200-4-6**]  11:49 AM
                             [**2200-4-6**]  05:28 PM
                             [**2200-4-6**]  05:53 PM
                             [**2200-4-6**]  11:52 PM
                             [**2200-4-7**]  12:00 AM
                             [**2200-4-7**]  05:31 AM
                             [**2200-4-7**]  05:43 AM
                             [**2200-4-7**]  09:41 AM
   WBC
   9.9
   7.4
   Hct
   29.5
   26.8
   Plt
   43
   43
   Cr
   1.9
   1.8
   1.8
   TCO2
   22
   22
   22
   22
   24
   23
   Glucose
   99
   121
   124
   140
   Other labs: PT / PTT / INR:24.0/64.7/2.3, ALT / AST:15/35, Alk Phos / T
   Bili:75/4.5, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Lactic Acid:3.6 mmol/L, Albumin:2.3 g/dL,
   LDH:223 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   45F HIV (well controlled), HCV (poorly controlled) c/b ESLD, portal
   HTN, s/p TIPS for hydrothorax. prior GIB admitted with SBP and ARF/HRS
   with subsequent hypotension.
   ESLD, ascites, h/o GIB. s/p parcentesis.  trend total bilis
   renal failure: Likely HRS, Cont CVVH --> increase rate to 200cc/hr
   neg.  Continue octreotide and midodrine.
   ID: Continue vanc, aztreonam. Continue cipro for treatment of SBP
   diagnosed at OSH. HIV meds dosed for CVVH
   Resp failure: CXR improving, oxygenating well --> deop PEEP to 8.
   Adrenal insufficiency: Cont 7 day course of hydrocort
   Thrombocytopenia: Check HIT, DIC labs
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-4-7**] 09:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Arterial Line - [**2200-4-4**] 03:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2200-04-08 07:11:00 Physician Resident Progress Note
Chief Complaint: intubated
   24 Hour Events:
   [**4-7**]
   -Able to titrate pressors down and increase CVVH to remove 200 cc/h
   which her pressure tolerated.
   - Curbsided ID for klebsiella/enterococcus UTI that is ESBL.  Switched
   aztreonam to meropenem and added on tigacycline and colistin
   sensitivities
   - Octeotide and Midodrine added for likely HRS
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-7**] 10:00 AM
   Aztreonam - [**2200-4-7**] 05:56 PM
   Ciprofloxacin - [**2200-4-7**] 06:53 PM
   Meropenem - [**2200-4-7**] 08:15 PM
   Infusions:
   Fentanyl - 30 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-7**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-8**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.3
   HR: 57 (53 - 70) bpm
   BP: 94/56(68) {89/52(65) - 121/76(97)} mmHg
   RR: 0 (0 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 118 kg (admission): 120 kg
   Height: 65 Inch
    CVP: 18 (10 - 341)mmHg
   Total In:
                                                                  4,826 mL
                                                                  1,282 mL
   PO:
   TF:
                                                                    500 mL
                                                                    214 mL
   IVF:
                                                                  3,786 mL
                                                                    928 mL
   Blood products:
   Total out:
                                                                  8,383 mL
                                                                  2,520 mL
   Urine:
                                                                     76 mL
                                                                     35 mL
   NG:
                                                                     40 mL
   Stool:
                                                                     20 mL
   Drains:
                                                                    995 mL
                                                                    400 mL
   Balance:
                                                                 -3,557 mL
                                                                 -1,238 mL
                   [image002.jpg]
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 401) mL
   Vt (Spontaneous): 564 (0 - 564) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/39/167/25/3
   Ve: 6 L/min
   PaO2 / FiO2: 418
                                                                [**2200-4-8**]
                                                                    10:00a
   _______________________________________________________________________
                                     pH
                                    7.41
                                    pCO2
                                     41
                                     pO2
                                     120
                                    HCO3
                                     27
                                   BaseXS
                                      1
   Physical Examination
   Gen: sedated, intubated, nods in response to questions, denies pain,
   follows simple commands
   HEENT: tube in place, mmm
   Cards: rrr no m/r/g
   Resp: CTA anteriorly
   Abd: tense, distended, anasarcic, no rebound or guarding,
   Ext: tense edema throughout, wwp, no clubbing/cyanosis
   Skin: no rashes
   Labs / Radiology
   17 K/uL
   7.6 g/dL
   159 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.4 mEq/L
   17 mg/dL
   101 mEq/L
   133 mEq/L
   22.1 %
   3.4 K/uL
        [image004.jpg]
                             [**2200-4-7**]  09:41 AM
                             [**2200-4-7**]  12:09 PM
                             [**2200-4-7**]  12:18 PM
                             [**2200-4-7**]  05:09 PM
                             [**2200-4-7**]  05:40 PM
                             [**2200-4-7**]  06:46 PM
                             [**2200-4-7**]  11:25 PM
                             [**2200-4-7**]  11:39 PM
                             [**2200-4-8**]  04:33 AM
                             [**2200-4-8**]  04:44 AM
   WBC
   6.6
   5.4
   3.4
   3.4
   Hct
   25.4
   24.3
   22.7
   24
   22.1
   Plt
   32
   29
   22
   17
   Cr
   1.6
   1.4
   1.3
   1.3
   TCO2
   23
   25
   26
   26
   25
   28
   Glucose
   156
   155
   159
   Other labs: PT / PTT / INR:21.7/66.6/2.0, ALT / AST:13/31, Alk Phos / T
   Bili:75/2.5, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:80 mg/dL, Lactic Acid:2.8 mmol/L,
   Albumin:2.2 g/dL, LDH:212 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   45 y/o F with HIV and Hep C cirrhosis who presents from OSH for
   management of SBP and HRS who had acute respiratory decompensation in
   the setting of fluid overload.
   # Respiratory Distress: significantly improved, achieving good tidal
   volumes with minimal support. Chest x ray notably improved from
   admission. Now maintaining good ABGs on SBT. Original etiology most
   likely fluid overload in context of oliguric renal failure not
   responding to diuretics.
   - plan to extubate today
   - Will continue to remove fluid via CVVH (200cc/hr) as BP tolerates
   - continuing Vanc/[**Last Name (un) **] for any underlying pneumonia.
   - serial CXRs
   #Hypotension: Resolving. Maintaining SBPs in 90s on stress dose
   steroids but now off pressors. ECHO w/out evidence of cardiogenic
   shock. Pt was initially persistently hypotensive since initiation of
   CVVH, etiology unclear but differential includes septic shock, adrenal
   insufficiency, cardiogenic shock, hepatorenal syndrome. Pt has evidence
   of adrenal insufficiency per cortisol stim test.
   - Reduce stress dose steroids to 50 mg IV q8h
   # Possible DIC: initially with anemia and thrombocytopenia concerning
   for DIC, now unlikely given stable fibrinogen
   - Transfuse 1 unit platelets this AM
   - Transfuse for Hct<21, Platelets <10 or signs of active bleeding
   - CBC q6h
   # ARF: likely is oliguric renal failure secondary to hepatic renal
   syndrome. Unclear when patient stopped making urine. She is on
   octreotide and midodrine. Electrolytes stable.
   - continue octreotide and midodrine
   - f/u renal recs
   - renally dose HIV medications
   - Change meropenem to 1g q12 per ID recs
   - Check daily vancomycin troughs
   - HD line in place for potential CVVH vs. HD for volume removal
   - continue sevelemer
   - consider sodium bicarb replacement for metabolic acidosis
   - vancomycin trough 11.3; no change to medication.
   # Hyponatremia
to 133 this AM.
   - Dilute antibiotics in NS rather than D5.
   # SBP: has hx of SBP from outside hospital and was being treated with
   ciprofloxacin. Vanco added last night for broader coverage.  Culture
   data from OSH negative.
   - continue current abx (ciprofloxacin, per ID recs).
   - albumin daily once respiratory status stabilized
   # Hep C / Cirrhosis: has complicated Hep C cirrhosis with ascites and
   drain on R side of abdomen, s/p TIPS procedures and coagulopathy. Bili
   bumped today without other LFT changes.
   - f/u liver recs
   - continue SBP treatment as outlined above
   - Increase lactulose to 30mg q4h
   - follow up liver US with Doppler
 no ascites
   - trend LFTs
   - check hemolysis labs
   # Anemia: has anemia from unknown source.  Likely is multifactorial
   with possible bleed from either GI or other source.  Also likely low
   production in the setting of chronic disease.  Is s/p transfusion
   without appropriate bump in hct.  Was transfused 2 u PRBCs at OSH.
   - continue serial hcts, q8h
   - transfuse for hct <21
   - add on iron studies, vit b12, folate
   - guiac all stools
   - continue protonix
   - hemolysis labs
   # Thrombocytopenia: in the setting of chronic liver disease; has
   evidence of bleeding although the source in not obvious.  Will be
   having HD line placed today.
   - Will check CBC q8 hours, transfuse to 10
   - consider DDAVP if plt fall < 10 or bleeding
   # Coagulopathy: again in the setting of chronic liver disease; INR 1.8
   today and will be undergoing HD line placement.
   - vit k daily
   - transfuse two units FFP pre-procedure if possible
   # HIV: stable, CD4 count high without evidence of AIDS.
   - received HIV meds yesterday through OG tube
   - continue HAART meds (and lamivudine)
   # Hypothyroidism: TSH here 3.5, not probably accurate in setting of an
   accute illness.
   - continue home levothyroxine dose
   # COPD: likely all fluid overload
   - consider nebulizers as needed
   # Adrenal Insufficiency: continuing her on stress steroids
    - continue stress dose steroids for 7 day course
   # Social situation
   - SW saw patient yesterday, son is coming home from [**Country 8643**]. He does not
   know of her HIV status.
   # FEN: No IVF, replete electrolytes per renal, removing volume with
   CVVH, try starting TFs
   # Prophylaxis: pneumoboots, no SQ hep in setting of coagulopathy
   # Access: HD line, PICC, A-line
   # Communication: Patient; HCP is son, although note that son does not
   know HIV or Hep C status
   # Code:  Full (discussed with patient this morning while in respiratory
   distress).  Per report was confirmed last night as well.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-4-8**] 03:09 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Arterial Line - [**2200-4-4**] 03:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: staying in the ICU

2200-04-08 10:34:00 Physician Attending Progress Note
Chief Complaint: Liver Failure, Renal Failure, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to tolerate 200c/he off on CRRT
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2200-4-7**] 10:37 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Aztreonam - [**2200-4-7**] 05:56 PM
   Ciprofloxacin - [**2200-4-7**] 06:53 PM
   Vancomycin - [**2200-4-8**] 08:09 AM
   Meropenem - [**2200-4-8**] 10:02 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-7**] 08:15 PM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-4-8**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 64 (53 - 70) bpm
   BP: 95/56(70) {89/52(65) - 119/76(97)} mmHg
   RR: 18 (0 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 120 kg
   Height: 65 Inch
   CVP: 14 (10 - 341)mmHg
   Total In:
                                                                  4,826 mL
                                                                  2,362 mL
   PO:
   TF:
                                                                    500 mL
                                                                    341 mL
   IVF:
                                                                  3,786 mL
                                                                  1,632 mL
   Blood products:
                                                                    160 mL
   Total out:
                                                                  8,383 mL
                                                                  4,122 mL
   Urine:
                                                                     76 mL
                                                                     50 mL
   NG:
                                                                     40 mL
   Stool:
                                                                     20 mL
   Drains:
                                                                    995 mL
                                                                    630 mL
   Balance:
                                                                 -3,557 mL
                                                                 -1,760 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 401) mL
   Vt (Spontaneous): 690 (0 - 690) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 11 cmH2O
   Plateau: 23 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/41/120/25/1
   Ve: 5.8 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   17 K/uL
   159 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.4 mEq/L
   17 mg/dL
   101 mEq/L
   133 mEq/L
   22.1 %
   3.4 K/uL
        [image002.jpg]
                             [**2200-4-7**]  12:09 PM
                             [**2200-4-7**]  12:18 PM
                             [**2200-4-7**]  05:09 PM
                             [**2200-4-7**]  05:40 PM
                             [**2200-4-7**]  06:46 PM
                             [**2200-4-7**]  11:25 PM
                             [**2200-4-7**]  11:39 PM
                             [**2200-4-8**]  04:33 AM
                             [**2200-4-8**]  04:44 AM
                             [**2200-4-8**]  10:00 AM
   WBC
   6.6
   5.4
   3.4
   3.4
   Hct
   25.4
   24.3
   22.7
   24
   22.1
   Plt
   32
   29
   22
   17
   Cr
   1.6
   1.4
   1.3
   1.3
   TCO2
   25
   26
   26
   25
   28
   27
   Glucose
   156
   155
   159
   Other labs: PT / PTT / INR:21.7/66.6/2.0, ALT / AST:13/31, Alk Phos / T
   Bili:75/2.5, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:271 mg/dL, Lactic Acid:2.8 mmol/L,
   Albumin:2.2 g/dL, LDH:212 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   45F HIV (well controlled), HCV (poorly controlled) c/b ESLD, portal
   HTN, s/p TIPS for hydrothorax. prior GIB admitted with SBP and ARF/HRS
   with subsequent hypotension.
   ESLD: TBili back down.
   renal failure: [**Name8 (MD) 12005**] CRT, fluid off at 200cc/hr.  Continue octreotide
   and midodrine.
   ID: Continue vanc, meropenem.  Has ESBL Klebs in urine
   Resp failure: Passed SBT this AM x2 hrs --> though she is still volume
   up, will attemp to extubate today.
   Adrenal insufficiency: Will start to taper steroids
   Thrombocytopenia: Platelets continue to drop, now in the teens.
   Transfuse 1 unit platelets.  Fibrinogen comingback up spontaneously
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-4-8**] 10:06 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Arterial Line - [**2200-4-4**] 03:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2200-04-09 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 hour events:
   Extubated, tolerated well. Mentating well all day. Maintaining SBP in
   100s-120s. Noted to be bradycardic in 50s, unclear etiology. Tolerating
   200cc/hour fluid removal via CVVH. Son visited from [**Country 8643**] in the
   afternoon. Repeat CBC shows platelets and Hct stable at 10pm.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Aztreonam - [**2200-4-7**] 05:56 PM
   Ciprofloxacin - [**2200-4-7**] 06:53 PM
   Vancomycin - [**2200-4-8**] 08:09 AM
   Meropenem - [**2200-4-8**] 09:07 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2200-4-8**] 02:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-9**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 34.4
C (94
   HR: 64 (45 - 69) bpm
   BP: 101/59(75) {88/50(64) - 143/84(106)} mmHg
   RR: 8 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 118 kg (admission): 120 kg
   Height: 65 Inch
    CVP: 7 (7 - 20)mmHg
   Total In:
                                                                  5,038 mL
                                                                  1,067 mL
   PO:
                                                                    580 mL
                                                                     50 mL
   TF:
                                                                    390 mL
   IVF:
                                                                  3,556 mL
                                                                  1,017 mL
   Blood products:
                                                                    282 mL
   Total out:
                                                                 10,540 mL
                                                                  1,330 mL
   Urine:
                                                                    105 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
                                                                  1,470 mL
                                                                    250 mL
   Balance:
                                                                 -5,502 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.39/47/103/27/2
   PaO2 / FiO2: 103
   Physical Examination
   Labs / Radiology
   35 K/uL
   7.7 g/dL
   112 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.4 mEq/L
   11 mg/dL
   99 mEq/L
   132 mEq/L
   22.7 %
   3.7 K/uL
        [image002.jpg]
                             [**2200-4-8**]  04:33 AM
                             [**2200-4-8**]  04:44 AM
                             [**2200-4-8**]  10:00 AM
                             [**2200-4-8**]  10:49 AM
                             [**2200-4-8**]  04:01 PM
                             [**2200-4-8**]  04:15 PM
                             [**2200-4-8**]  09:39 PM
                             [**2200-4-8**]  10:05 PM
                             [**2200-4-9**]  03:48 AM
                             [**2200-4-9**]  04:22 AM
   WBC
   3.4
   3.6
   3.7
   Hct
   22.1
   22.8
   23.0
   23.3
   22.7
   Plt
   17
   35
   33
   35
   Cr
   1.3
   1.2
   1.1
   1.0
   0.9
   TCO2
   28
   27
   28
   27
   30
   Glucose
   159
   163
   133
   117
   112
   Other labs: PT / PTT / INR:23.5/55.1/2.2, ALT / AST:13/31, Alk Phos / T
   Bili:75/2.5, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:271 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:2.2 g/dL, LDH:212 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   45 y/o F with HIV and Hep C cirrhosis who presents from OSH for
   management of SBP and HRS who had acute respiratory decompensation in
   the setting of fluid overload.
   # Respiratory Distress: significantly improved, achieving good tidal
   volumes with minimal support. Chest x ray notably improved from
   admission. Now maintaining good ABGs on SBT. Original etiology most
   likely fluid overload in context of oliguric renal failure not
   responding to diuretics.
   - plan to extubate today
   - Will continue to remove fluid via CVVH (200cc/hr) as BP tolerates
   - continuing Vanc/[**Last Name (un) **] for any underlying pneumonia.
   - serial CXRs
   #Hypotension: Resolving. Maintaining SBPs in 90s on stress dose
   steroids but now off pressors. ECHO w/out evidence of cardiogenic
   shock. Pt was initially persistently hypotensive since initiation of
   CVVH, etiology unclear but differential includes septic shock, adrenal
   insufficiency, cardiogenic shock, hepatorenal syndrome. Pt has evidence
   of adrenal insufficiency per cortisol stim test.
   - Reduce stress dose steroids to 50 mg IV q8h
   # Possible DIC: initially with anemia and thrombocytopenia concerning
   for DIC, now unlikely given stable fibrinogen
   - Transfuse 1 unit platelets this AM
   - Transfuse for Hct<21, Platelets <10 or signs of active bleeding
   - CBC q6h
   # ARF: likely is oliguric renal failure secondary to hepatic renal
   syndrome. Unclear when patient stopped making urine. She is on
   octreotide and midodrine. Electrolytes stable.
   - continue octreotide and midodrine
   - f/u renal recs
   - renally dose HIV medications
   - Change meropenem to 1g q12 per ID recs
   - Check daily vancomycin troughs
   - HD line in place for potential CVVH vs. HD for volume removal
   - continue sevelemer
   - consider sodium bicarb replacement for metabolic acidosis
   - vancomycin trough 11.3; no change to medication.
   # Hyponatremia
to 133 this AM.
   - Dilute antibiotics in NS rather than D5.
   # SBP: has hx of SBP from outside hospital and was being treated with
   ciprofloxacin. Vanco added last night for broader coverage.  Culture
   data from OSH negative.
   - continue current abx (ciprofloxacin, per ID recs).
   - albumin daily once respiratory status stabilized
   # Hep C / Cirrhosis: has complicated Hep C cirrhosis with ascites and
   drain on R side of abdomen, s/p TIPS procedures and coagulopathy. Bili
   bumped today without other LFT changes.
   - f/u liver recs
   - continue SBP treatment as outlined above
   - Increase lactulose to 30mg q4h
   - follow up liver US with Doppler
 no ascites
   - trend LFTs
   - check hemolysis labs
   # Anemia: has anemia from unknown source.  Likely is multifactorial
   with possible bleed from either GI or other source.  Also likely low
   production in the setting of chronic disease.  Is s/p transfusion
   without appropriate bump in hct.  Was transfused 2 u PRBCs at OSH.
   - continue serial hcts, q8h
   - transfuse for hct <21
   - add on iron studies, vit b12, folate
   - guiac all stools
   - continue protonix
   - hemolysis labs
   # Thrombocytopenia: in the setting of chronic liver disease; has
   evidence of bleeding although the source in not obvious.  Will be
   having HD line placed today.
   - Will check CBC q8 hours, transfuse to 10
   - consider DDAVP if plt fall < 10 or bleeding
   # Coagulopathy: again in the setting of chronic liver disease; INR 1.8
   today and will be undergoing HD line placement.
   - vit k daily
   - transfuse two units FFP pre-procedure if possible
   # HIV: stable, CD4 count high without evidence of AIDS.
   - received HIV meds yesterday through OG tube
   - continue HAART meds (and lamivudine)
   # Hypothyroidism: TSH here 3.5, not probably accurate in setting of an
   accute illness.
   - continue home levothyroxine dose
   # COPD: likely all fluid overload
   - consider nebulizers as needed
   # Adrenal Insufficiency: continuing her on stress steroids
    - continue stress dose steroids for 7 day course
   # Social situation
   - SW saw patient yesterday, son is coming home from [**Country 8643**]. He does not
   know of her HIV status.
   # FEN: No IVF, replete electrolytes per renal, removing volume with
   CVVH, try starting TFs
   # Prophylaxis: pneumoboots, no SQ hep in setting of coagulopathy
   # Access: HD line, PICC, A-line
   # Communication: Patient; HCP is son, although note that son does not
   know HIV or Hep C status
   # Code:  Full (discussed with patient this morning while in respiratory
   distress).  Per report was confirmed last night as well.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Arterial Line - [**2200-4-4**] 03:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-04-09 10:45:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis, Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints this AM
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2200-4-8**] 11:45 AM
 EKG - At [**2200-4-8**] 07:06 PM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Aztreonam - [**2200-4-7**] 05:56 PM
   Ciprofloxacin - [**2200-4-7**] 06:53 PM
   Meropenem - [**2200-4-8**] 09:07 PM
   Vancomycin - [**2200-4-9**] 08:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2200-4-8**] 02:03 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-9**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.1
C (97
   Tcurrent: 34.6
C (94.3
   HR: 52 (45 - 69) bpm
   BP: 95/51(66) {88/50(64) - 143/84(106)} mmHg
   RR: 11 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 120 kg
   Height: 65 Inch
   CVP: 12 (7 - 20)mmHg
   Total In:
                                                                  5,038 mL
                                                                  1,689 mL
   PO:
                                                                    580 mL
                                                                    150 mL
   TF:
                                                                    390 mL
   IVF:
                                                                  3,556 mL
                                                                  1,539 mL
   Blood products:
                                                                    282 mL
   Total out:
                                                                 10,629 mL
                                                                  1,482 mL
   Urine:
                                                                    105 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
                                                                  1,470 mL
                                                                    250 mL
   Balance:
                                                                 -5,591 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.39/47/103/27/2
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   7.7 g/dL
   35 K/uL
   112 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.4 mEq/L
   11 mg/dL
   99 mEq/L
   132 mEq/L
   22.7 %
   3.7 K/uL
        [image002.jpg]
                             [**2200-4-8**]  04:33 AM
                             [**2200-4-8**]  04:44 AM
                             [**2200-4-8**]  10:00 AM
                             [**2200-4-8**]  10:49 AM
                             [**2200-4-8**]  04:01 PM
                             [**2200-4-8**]  04:15 PM
                             [**2200-4-8**]  09:39 PM
                             [**2200-4-8**]  10:05 PM
                             [**2200-4-9**]  03:48 AM
                             [**2200-4-9**]  04:22 AM
   WBC
   3.4
   3.6
   3.7
   Hct
   22.1
   22.8
   23.0
   23.3
   22.7
   Plt
   17
   35
   33
   35
   Cr
   1.3
   1.2
   1.1
   1.0
   0.9
   TCO2
   28
   27
   28
   27
   30
   Glucose
   159
   163
   133
   117
   112
   Other labs: PT / PTT / INR:23.5/55.1/2.2, ALT / AST:13/31, Alk Phos / T
   Bili:75/2.5, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:271 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:2.2 g/dL, LDH:212 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   45F HIV (well controlled), HCV (poorly controlled) c/b ESLD, portal
   HTN, s/p TIPS for hydrothorax. prior GIB admitted with SBP and ARF/HRS
   with subsequent hypotension.
   ESLD: Cont to trend bilis -> they have stabilized
   renal failure: [**Name8 (MD) 12005**] CRT, fluid off at 200cc/hr.  Continue octreotide
   and midodrine. Will be able transition to regular HD soon
   ID: Continue vanc, meropenem.  Has ESBL Klebs in urine.  Cont HAART
   Resp failure: Now extubated and doing well.
   Adrenal insufficiency: Cont hydrocort taper
   Thrombocytopenia: Platelet count has stabilized post trans
   Social: Will ask social work to see her.  We have discussed with her
   benefits of disclosing HIV status to her son (who is HCP) for further
   decision making.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Arterial Line - [**2200-4-4**] 03:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2200-04-10 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2200-4-9**]
   -Significantly improved mentally in the morning.
   5pm, became notably more sluggish, in setting of DIC, fibrinogen < 35,
   INR 2.2, sent for stat Head CT - limited study [**2-25**] motion but negative
   for ICH
   -renal agreed end of CVVH in AM, start HD
   -no BMs despite heavy lactulose, KUB ? ileus
   -2am, nauseaus, started zofran + bowel reg
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Aztreonam - [**2200-4-7**] 05:56 PM
   Ciprofloxacin - [**2200-4-7**] 06:53 PM
   Vancomycin - [**2200-4-9**] 08:00 AM
   Meropenem - [**2200-4-9**] 09:55 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-9**] 08:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-10**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 83 (52 - 83) bpm
   BP: 114/92(102) {88/51(66) - 145/92(113)} mmHg
   RR: 14 (5 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 120 kg
   Height: 65 Inch
    CVP: 17 (7 - 17)mmHg
   Total In:
                                                                  4,309 mL
                                                                    800 mL
   PO:
                                                                    410 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  3,378 mL
                                                                    740 mL
   Blood products:
                                                                    521 mL
   Total out:
                                                                  7,553 mL
                                                                  2,002 mL
   Urine:
                                                                     55 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
                                                                    850 mL
                                                                    300 mL
   Balance:
                                                                 -3,244 mL
                                                                 -1,202 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.45/38/87.[**Numeric Identifier 7**]/26/2
   Physical Examination
   Gen: Answers yes to questions, tracks with eyes, otherwise not
   following commands
   Labs / Radiology
   46 K/uL
   9.0 g/dL
   114 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.2 mEq/L
   13 mg/dL
   100 mEq/L
   133 mEq/L
   24.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2200-4-8**]  10:05 PM
                             [**2200-4-9**]  03:48 AM
                             [**2200-4-9**]  04:22 AM
                             [**2200-4-9**]  03:05 PM
                             [**2200-4-9**]  03:16 PM
                             [**2200-4-9**]  09:34 PM
                             [**2200-4-9**]  09:45 PM
                             [**2200-4-9**]  09:48 PM
                             [**2200-4-10**]  03:51 AM
                             [**2200-4-10**]  04:04 AM
   WBC
   3.7
   5.0
   5.1
   Hct
   22.7
   25.5
   23.6
   24.5
   Plt
   35
   40
   34
   46
   Cr
   0.9
   1.0
   0.9
   0.9
   TCO2
   27
   30
   27
   28
   Glucose
   112
   113
   115
   114
   Other labs: PT / PTT / INR:18.6/41.4/1.7, ALT / AST:15/29, Alk Phos / T
   Bili:78/3.0, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:271 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.7 g/dL, LDH:216 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   [image004.jpg]
   Assessment and Plan
   45 y/o F with HIV and Hep C cirrhosis who presents from OSH for
   management of SBP and HRS who had acute respiratory decompensation in
   the setting of fluid overload.
   # Respiratory Distress: Pt
s overall respiratory function markedly
   improved. Now extubated and breathing comfortably on RA,
   hemodynamically stable
   - Continuing CVVH for fluid removal at 200cc/hour as BP tolerates
   - Continue Vancomycin/Meropenem for PNA coverage
   .
   #Hypotension: Resolving. Maintaining SBPs in 100s-120s, off pressors,
   tolerating CVVH well
   - MAP goal >55
   - Continuing stress dose steroids to 50 mg IV q8h, consider taper
   tomorrow
   # Anemia/Thrombocytopenia: Possible DIC: initially with anemia and
   thrombocytopenia concerning for DIC, fibrinogen had increased, however
   now decreased again
   - Transfuse for Hct<21, Platelets <10 or signs of active bleeding
   - CBC [**Hospital1 **]
   - consider starting epogen with HD once on HD
   - Consider heme/onc consult for etiology of heme abnormalities
   # ARF: likely is oliguric renal failure secondary to hepatic renal
   syndrome. Unclear when patient stopped making urine. She is on
   octreotide and midodrine. Electrolytes stable.  UOP 100cc/day
   - continue octreotide and midodrine
   - f/u renal recs
   - renally dose HIV medications
   - Continue meropenem to 1g q12 per ID recs
   - F/U daily vancomycin troughs
   - HD line in place for potential CVVH vs. HD for volume removal
   - continue sevelemer
   - consider sodium bicarb replacement for metabolic acidosis
   - vancomycin trough 11.3; no change to medication.
   .
   # Hyponatremia
to 132 this AM.
   - Dilute antibiotics in NS rather than D5.
   # SBP: has hx of SBP from outside hospital and was being treated with
   ciprofloxacin. Vanco added last night for broader coverage.  Culture
   data from OSH negative.
   - continue current abx (ciprofloxacin, per ID recs).
   - albumin daily once respiratory status stabilized
   # Hep C / Cirrhosis: has complicated Hep C cirrhosis with ascites and
   drain on R side of abdomen, s/p TIPS procedures and coagulopathy. Bili
   bumped today without other LFT changes.
   - f/u liver recs
   - continue SBP treatment as outlined above
   - Increase lactulose to 30mg q4h
   - follow up liver US with Doppler
 no ascites
   - trend LFTs
   - check hemolysis labs
   # Anemia: has anemia from unknown source.  Likely is multifactorial
   with possible bleed from either GI or other source.  Also likely low
   production in the setting of chronic disease.  Is s/p transfusion
   without appropriate bump in hct.  Was transfused 2 u PRBCs at OSH.
   - continue serial hcts, q8h
   - transfuse for hct <21
   - add on iron studies, vit b12, folate
   - guiac all stools
   - continue protonix
   - hemolysis labs
   # Thrombocytopenia: in the setting of chronic liver disease; has
   evidence of bleeding although the source in not obvious.  Will be
   having HD line placed today.
   - Will check CBC q8 hours, transfuse to 10
   - consider DDAVP if plt fall < 10 or bleeding
   # Coagulopathy: again in the setting of chronic liver disease; INR 1.8
   today and will be undergoing HD line placement.
   - vit k daily
   - transfuse two units FFP pre-procedure if possible
   # HIV: stable, CD4 count high without evidence of AIDS.
   - Continue HIV meds (pt. now taking PO)
   - continue HAART meds (and lamivudine)
   # Hypothyroidism: TSH here 3.5, not probably accurate in setting of an
   accute illness.
   - continue home levothyroxine dose
   # COPD: likely all fluid overload
   - consider nebulizers as needed
   # Adrenal Insufficiency: continuing her on stress steroids
    - continue stress dose steroids for 7 day course
   # Social situation
   -Son in from [**Country 8643**] yesterday. Will re-visit today
   - Will call SW to provide support for Pt in possibly disclosing HIV
   status to son who is HCP
   .
   # FEN: No IVF, replete electrolytes per renal, removing volume with
   CVVH, start on soft diet today
   # Prophylaxis: pneumoboots, no SQ hep in setting of coagulopathy
   # Access: PICC Line - [**2200-4-4**] 02:00 PM
   Arterial Line - [**2200-4-4**] 03:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   # Communication: Patient; HCP is son, although note that son does not
   know HIV status
   # Code:  Full (discussed with patient this morning while in respiratory
   distress).  Per report was confirmed last night as well.
   # Disposition: ICU pending discontinuation of CVVH
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Arterial Line - [**2200-4-4**] 03:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-04-10 10:47:00 Physician Attending Progress Note
Chief Complaint: Renal Failure, Cirrhosis, Hepatic encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still remains less alert than yesterday AM
   24 Hour Events:
   Had worsening of mental status yesterday afternoon - head CT negative
   for bleed
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Aztreonam - [**2200-4-7**] 05:56 PM
   Ciprofloxacin - [**2200-4-7**] 06:53 PM
   Vancomycin - [**2200-4-9**] 08:00 AM
   Meropenem - [**2200-4-9**] 09:55 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-9**] 08:34 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-4-10**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 72 (56 - 85) bpm
   BP: 116/74(90) {92/53(67) - 145/92(113)} mmHg
   RR: 18 (5 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 120 kg
   Height: 65 Inch
   CVP: 17 (7 - 17)mmHg
   Total In:
                                                                  4,309 mL
                                                                    860 mL
   PO:
                                                                    410 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,378 mL
                                                                    740 mL
   Blood products:
                                                                    521 mL
   Total out:
                                                                  7,553 mL
                                                                  2,022 mL
   Urine:
                                                                     55 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
                                                                    850 mL
                                                                    300 mL
   Balance:
                                                                 -3,244 mL
                                                                 -1,162 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.45/38/87.[**Numeric Identifier 7**]/26/2
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous:  R > L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, much
   slower in response this AM and less attentive
   Labs / Radiology
   9.0 g/dL
   46 K/uL
   114 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.2 mEq/L
   13 mg/dL
   100 mEq/L
   133 mEq/L
   24.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2200-4-8**]  10:05 PM
                             [**2200-4-9**]  03:48 AM
                             [**2200-4-9**]  04:22 AM
                             [**2200-4-9**]  03:05 PM
                             [**2200-4-9**]  03:16 PM
                             [**2200-4-9**]  09:34 PM
                             [**2200-4-9**]  09:45 PM
                             [**2200-4-9**]  09:48 PM
                             [**2200-4-10**]  03:51 AM
                             [**2200-4-10**]  04:04 AM
   WBC
   3.7
   5.0
   5.1
   Hct
   22.7
   25.5
   23.6
   24.5
   Plt
   35
   40
   34
   46
   Cr
   0.9
   1.0
   0.9
   0.9
   TCO2
   27
   30
   27
   28
   Glucose
   112
   113
   115
   114
   Other labs: PT / PTT / INR:18.6/41.4/1.7, ALT / AST:15/29, Alk Phos / T
   Bili:78/3.0, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:271 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.7 g/dL, LDH:216 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   45F HIV (well controlled), HCV (poorly controlled) c/b ESLD, portal
   HTN, s/p TIPS for hydrothorax. prior GIB admitted with SBP and ARF/HRS
   with subsequent hypotension.  Mental status worsening - ?hepatic
   encephalopathy
   ESLD/Hepatic encephalopathy: Has not had stool output with lactulose
   will try lactulose enemas
   Altered MS: With HIV status, though CD4 count in 600s, bringing up
   possibility of CNS infection.  But given bleeding risks with LP at
   present and likelihood of hepatic encephalopathy, will treat for HE and
   defer LP.
   renal failure: Off CRRT
 getting UF this AM
   ID: D/C vanc Cont meropenem for ESBL Klebs in urine.  Cont HAART.
   Adrenal insufficiency: Cont hydrocort taper
   Thrombocytopenia/?DIC: Platelet count has stabilized post transfusion,
   fibrinogen low as well. Cont to follow closely.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Arterial Line - [**2200-4-4**] 03:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2200-04-11 07:35:00 Physician Resident Progress Note
Chief Complaint: Respiratory Distress
   24 Hour Events:
   Pt. continues to be alert, but is not responding verbally.  Remained
   hemodynamically stable post-HD.  Had a repeat head CT yesterday which
   did not show any evolving ICH.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-9**] 08:00 AM
   Meropenem - [**2200-4-10**] 01:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-10**] 10:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-11**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 81 (62 - 81) bpm
   BP: 118/66(77) {107/60(71) - 136/80(93)} mmHg
   RR: 12 (11 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.2 kg (admission): 120 kg
   Height: 65 Inch
                  Total In:
                                                                  1,030 mL
                                                                    150 mL
   PO:
                                                                    120 mL
                  TF:
                                                                     60 mL
                                                                    150 mL
   IVF:
                                                                    850 mL
   Blood products:
   Total out:
                                                                  8,562 mL
                                                                    945 mL
   Urine:
                                                                    115 mL
                                                                     25 mL
   NG:
   120 mL
   Stool:
                                                                  3,300 mL
                                                                    800 mL
   Drains:
                                                                    500 mL
   Balance:
                                                                 -7,532 mL
                                                                   -795 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Gen:  NAD
   Pulm:  coarse b/l, no wheezing
   CV: 3/6 systolic murmur, heard all areas, best @ LSB
   Abd:  + BS, soft, [**Male First Name (un) **] intact with minimal drainage from previous para
   site
   Peripheral Vascular: pulses dopplerable, edema present, but improved
   Skin:  warm, dry
   Neurologic: answers
 to question about pain, but unable to
   localize, does focus on face, does move all extremities
   Labs / Radiology
   33 K/uL
   7.9 g/dL
   167 mg/dL
   1.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   27 mg/dL
   104 mEq/L
   137 mEq/L
   22.4 %
   4.5 K/uL
                             [**2200-4-9**]  04:22 AM
                             [**2200-4-9**]  03:05 PM
                             [**2200-4-9**]  03:16 PM
                             [**2200-4-9**]  09:34 PM
                             [**2200-4-9**]  09:45 PM
                             [**2200-4-9**]  09:48 PM
                             [**2200-4-10**]  03:51 AM
                             [**2200-4-10**]  04:04 AM
                             [**2200-4-10**]  03:49 PM
                             [**2200-4-11**]  03:24 AM
   WBC
   5.0
   5.1
   4.5
   4.5
   Hct
   25.5
   23.6
   24.5
   24.4
   22.4
   Plt
   40
   34
   46
   28
   33
   Cr
   1.0
   0.9
   0.9
   1.7
   TCO2
   30
   27
   28
   Glucose
   113
   115
   114
   167
   Other labs: PT / PTT / INR:19.2/39.5/1.8, ALT / AST:14/34, Alk Phos / T
   Bili:80/2.3, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:<35 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.5 g/dL, LDH:220 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   45 y/o F with HIV and Hep C cirrhosis who presents from OSH for
   management of SBP and HRS who had acute respiratory decompensation in
   the setting of fluid overload.
   # Altered Mental Status:  Noticed yesterday afternoon that the patient
   was not verbal and not responding well to command.  Diff dx includes
   encephalopathy, ICH (less likely in setting of negative CT), delirium,
   ileus.  Head CT was negative.  Infection also a possibility. Blinks to
   threat.  No obvious seizure activity
   - Lactulose to decrease ammonia
   - Check blood/urine cx
   - Closely follow mental status
   # Respiratory Distress/Volume Overload: Pt
s overall respiratory
   function markedly improved. Now extubated and breathing comfortably on
   RA, hemodynamically stable.  CVVH was continued until 5am this am due
   to clot.
   - Starting HD this morning with ultrafiltration per renal
   - Continue Vancomycin/Meropenem for PNA coverage
   #Hypotension: Resolving. Maintaining SBPs in 100s-120s, off pressors,
   tolerating CVVH well
   - MAP goal >55
   - Continuing stress dose steroids to 50 mg IV q8h, on Day 2 of q8
   dosing
 consider taper to q12h tomorrow
   # Anemia/Thrombocytopenia: Possible DIC: initially with anemia and
   thrombocytopenia concerning for DIC, fibrinogen had increased, however
   now decreased again
   - Transfuse for Hct<21, Platelets <10 or signs of active bleeding
   - CBC [**Hospital1 **]
   - consider starting epogen with HD
   - Consider heme/onc consult for etiology of heme abnormalities
   # ARF: likely is oliguric renal failure secondary to hepatic renal
   syndrome. Unclear when patient stopped making urine. She is on
   octreotide and midodrine. Electrolytes stable.  UOP 100cc/day
   - continue octreotide and midodrine
   - f/u renal recs
   - renally dose HIV medications
   - Change meropenem to 1g q24 per pharmacy
   - F/U daily vancomycin troughs
   - HD line in place for potential CVVH vs. HD for volume removal
   - continue sevelemer
   - consider sodium bicarb replacement for metabolic acidosis
   .
   # Hyponatremia
to 132 this AM.
   - Dilute antibiotics in NS rather than D5.
   # SBP: has hx of SBP from outside hospital and was being treated with
   ciprofloxacin. Vanco added last night for broader coverage.  Culture
   data from OSH negative.
   - continue current abx (ciprofloxacin, per ID recs).
   - DC vanco
   - albumin daily once respiratory status stabilized
   # Hep C / Cirrhosis: has complicated Hep C cirrhosis with ascites and
   drain on R side of abdomen, s/p TIPS procedures and coagulopathy. Bili
   bumped today without other LFT changes.
   - f/u liver recs
   - continue SBP treatment as outlined above
   - Increase lactulose to 30mg q4h, attempt lactulose PR today
   - follow up liver US with Doppler
 no ascites
   - trend LFTs
   - check hemolysis labs
   # Coagulopathy: again in the setting of chronic liver disease; INR 1.8
   today and will be undergoing HD line placement.
   - vit k daily
   - transfuse two units FFP pre-procedure if possible
   # HIV: stable, CD4 count high without evidence of AIDS.
   - Continue HIV meds (pt. now taking PO)
   - continue HAART meds, redose her meds per pharmacy
   # Hypothyroidism: TSH here 3.5, not probably accurate in setting of an
   accute illness.
   - continue home levothyroxine dose
   # COPD: likely all fluid overload
   - consider nebulizers as needed
   # Adrenal Insufficiency: continuing her on stress steroids
    - continue stress dose steroids for 7 day course
   # Social situation
 social work is involved
   -Son in from [**Country 8643**]
   -He remains the HCP, new form filled out yesterday and the pt
   daughter-in-law and the pt
s boyfriend will be secondary contacts in
   the event that her son needs to return to [**Country 8643**]
   - Family is aware of her HIV and Hep C status (they do not openly
   discuss it, however)
   .
   # FEN: No IVF, replete electrolytes per renal, place NGT and consider
   starting TF
   # Prophylaxis: pneumoboots, no SQ hep in setting of coagulopathy
   # Access: PICC Line - [**2200-4-4**] 02:00 PM
   Arterial Line - [**2200-4-4**] 03:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   # Communication: Patient; HCP is son, - family is aware of HepC and HIV
   although they do not like to openly discuss this
   # Code:  Full (discussed with patient this morning while in respiratory
   distress).  Per report was confirmed last night as well.
   # Disposition: ICU pending hemodialysis
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-4-10**] 06:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-04-11 11:04:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis, Hepatic encephalopathy, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MS [**First Name (Titles) 12075**] [**Last Name (Titles) 12076**] this AM
   CT head last PM prelim neg
   24 Hour Events:
 URINE CULTURE - At [**2200-4-10**] 10:00 AM
 BLOOD CULTURED - At [**2200-4-10**] 11:00 AM
   2 sets
 ARTERIAL LINE - STOP [**2200-4-10**] 02:10 PM
   History obtained from Medical records, icu team
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-9**] 08:00 AM
   Meropenem - [**2200-4-10**] 01:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-11**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-4-11**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 66 (62 - 81) bpm
   BP: 118/65(77) {107/59(71) - 136/80(93)} mmHg
   RR: 13 (6 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.2 kg (admission): 120 kg
   Height: 65 Inch
             Total In:
                                                                  1,030 mL
                                                                    336 mL
   PO:
                                                                    120 mL
             TF:
                                                                     60 mL
                                                                    216 mL
   IVF:
                                                                    850 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  8,562 mL
                                                                  1,005 mL
   Urine:
                                                                    115 mL
                                                                     85 mL
   NG:
   120 mL
   Stool:
                                                                  3,300 mL
                                                                    800 mL
   Drains:
                                                                    500 mL
   Balance:
                                                                 -7,532 mL
                                                                   -669 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   33 K/uL
   167 mg/dL
   1.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   27 mg/dL
   104 mEq/L
   137 mEq/L
   22.4 %
   4.5 K/uL
        [image002.jpg]
                             [**2200-4-9**]  04:22 AM
                             [**2200-4-9**]  03:05 PM
                             [**2200-4-9**]  03:16 PM
                             [**2200-4-9**]  09:34 PM
                             [**2200-4-9**]  09:45 PM
                             [**2200-4-9**]  09:48 PM
                             [**2200-4-10**]  03:51 AM
                             [**2200-4-10**]  04:04 AM
                             [**2200-4-10**]  03:49 PM
                             [**2200-4-11**]  03:24 AM
   WBC
   5.0
   5.1
   4.5
   4.5
   Hct
   25.5
   23.6
   24.5
   24.4
   22.4
   Plt
   40
   34
   46
   28
   33
   Cr
   1.0
   0.9
   0.9
   1.7
   TCO2
   30
   27
   28
   Glucose
   113
   115
   114
   167
   Other labs: PT / PTT / INR:19.2/39.5/1.8, ALT / AST:14/34, Alk Phos / T
   Bili:80/2.3, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:<35 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.5 g/dL, LDH:220 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   45F HIV (well controlled), HCV (poorly controlled) c/b ESLD, portal
   HTN, s/p TIPS for hydrothorax. prior GIB admitted with SBP and ARF/HRS
   with subsequent hypotension.  Likely encephalopathy
   ESLD/Hepatic encephalopathy: MS slightly improved today with improved
   stool output.  If improvement does not continue, will pursue MRI brain,
   possible LP
   renal failure: HD today
   ID: Meropenem for ESBL Klebs in urine.  Cont HAART.
   Adrenal insufficiency: Cont hydrocort taper
   Thrombocytopenia/?DIC: Cont to follow fibrinigen and platelets - not
   evidence of overt bleeding
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-4-11**] 09:29 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2200-04-12 05:32:00 Physician Resident Progress Note
24 Hour Events:
   No events overnight. Pt continues to display poor mental status.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-9**] 08:00 AM
   Meropenem - [**2200-4-11**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-11**] 09:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-12**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96
   HR: 62 (58 - 81) bpm
   BP: 149/70(89) {81/59(70) - 152/91(98)} mmHg
   RR: 13 (6 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.2 kg (admission): 120 kg
   Height: 65 Inch
                  Total In:
                                                                    900 mL
                                                                    110 mL
   PO:
                  TF:
                                                                    480 mL
                                                                    110 mL
   IVF:
                                                                    120 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                      0 mL
   Urine:
                                                                    230 mL
   NG:
                                                                    120 mL
   Stool:
                                                                  1,800 mL
   Drains:
   Balance:
                                                                 -1,250 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Neuro/Mental status: awake, oriented to place and year, but not to
   month. Answering questions appropriately but sometimes speech is
   nonsensical. PERRL, subtle left-sided lip droop (not evidence on
   smiling). Moves all 4 extremities equally.
   CV: III/VI systolic murmur heard diffusely across chest, most
   pronounced along left sternal border.
   Lungs: CTAB anteriorly
   Abdomen: s/nt/nd, + BS
   Extremities: WWP, woody edema.
   Labs / Radiology
   39 K/uL
   7.6 g/dL
   164 mg/dL
   1.9 mg/dL
   26 mEq/L
   3.3 mEq/L
   39 mg/dL
   107 mEq/L
   140 mEq/L
   23.5 %
   4.0 K/uL
        [image002.jpg]
                             [**2200-4-9**]  03:16 PM
                             [**2200-4-9**]  09:34 PM
                             [**2200-4-9**]  09:45 PM
                             [**2200-4-9**]  09:48 PM
                             [**2200-4-10**]  03:51 AM
                             [**2200-4-10**]  04:04 AM
                             [**2200-4-10**]  03:49 PM
                             [**2200-4-11**]  03:24 AM
                             [**2200-4-11**]  04:53 PM
                             [**2200-4-12**]  04:26 AM
   WBC
   5.1
   4.5
   4.5
   4.5
   4.0
   Hct
   23.6
   24.5
   24.4
   22.4
   23.7
   23.5
   Plt
   34
   46
   28
   33
   39
   39
   Cr
   0.9
   0.9
   1.7
   1.9
   TCO2
   27
   28
   Glucose
   115
   114
   167
   164
   Other labs: PT / PTT / INR:19.1/39.1/1.7, ALT / AST:16/44, Alk Phos / T
   Bili:89/2.1, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:61 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.5 g/dL, LDH:220 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   Micro
   Urine Cx ([**4-10**])
no growth
   Blood Cx--Pending
   Assessment and Plan
   45 y/o F with HIV and Hep C cirrhosis who presents from OSH for
   management of SBP and HRS who had acute respiratory decompensation in
   the setting of fluid overload.
   # Altered Mental Status: Improving this morning. Noticed yesterday
   afternoon that the patient was not verbal and not responding well to
   command. Improved on exam this AM. Diff dx includes hepatic
   encephalopathy, ICH (less likely in setting of negative CT), delirium,
   ileus.  Head CT was negative.  Infection also a possibility. Blinks to
   threat.  No obvious seizure activity
   - Continue lactulose to decrease ammonia but reduce dose to 30q6hr
   - Check blood/urine cx
   - Closely follow mental status
   - Deferring LP for now in setting of bleeding risk
   - Consider MRI if MS not improved
   # Respiratory Distress/Volume Overload: Pt
s overall respiratory
   function markedly improved. Now extubated and breathing comfortably on
   RA, hemodynamically stable.  CVVH was continued until 5am this am due
   to clot.
   - Continuing HD per renal recs
   - Appreciate renal recs
   #Hypotension: Resolving. Maintaining SBPs in 100s-120s, off pressors,
   tolerating CVVH well
   - MAP goal >55
   - Continuing stress dose steroids to 50 mg q12h and plan to taper
   tomorrow per guideline
   # Anemia/Thrombocytopenia: Possible DIC: initially with anemia and
   thrombocytopenia concerning for DIC, fibrinogen had increased, however
   now decreased again
   - Transfuse for Hct<21, Platelets <10 or signs of active bleeding
   - CBC [**Hospital1 **]
   - epogen with HD
   - Consider heme/onc consult for etiology of heme abnormalities
   # ARF: likely is oliguric renal failure secondary to hepatic renal
   syndrome. Unclear when patient stopped making urine. She is on
   octreotide and midodrine. Electrolytes stable.  UOP 100cc/day
   - continue octreotide and midodrine
   - f/u renal recs
   - renally dose HIV medications
   - Change meropenem to 1g q24 per pharmacy
   - F/U daily vancomycin troughs
   - HD line in place for potential CVVH vs. HD for volume removal
   - consider sodium bicarb replacement for metabolic acidosis
   # SBP: has hx of SBP from outside hospital and was being treated with
   ciprofloxacin. Vanco added last night for broader coverage. Culture
   data from OSH negative.
   - continue current abx (ciprofloxacin, per ID recs).
   - albumin daily once respiratory status stabilized
   - reduce lactulose slightly given high volume of stool and lowish K
   # Hyponatremia
to 132 this AM.
   - Dilute antibiotics in NS rather than D5.
   # Hep C / Cirrhosis: has complicated Hep C cirrhosis with ascites and
   drain on R side of abdomen, s/p TIPS procedures and coagulopathy. Bili
   bumped today without other LFT changes.
   - f/u liver recs
   - continue SBP treatment as outlined above
   - Increase lactulose to 30mg q4h,
   - follow up liver US with Doppler
 no ascites
   - trend LFTs
   # Coagulopathy: again in the setting of chronic liver disease; INR 1.7
   today
   - vit k daily
   - transfuse two units FFP pre-procedure if needed
   # HIV: stable, CD4 count high without evidence of AIDS.
   - Continue HIV meds (pt. now taking PO)
   - continue HAART meds, redose her meds per pharmacy
   # Hypothyroidism: TSH here 3.5, not probably accurate in setting of an
   accute illness.
   - continue home levothyroxine dose
   # COPD: likely all fluid overload
   - consider nebulizers as needed
   # Adrenal Insufficiency: continuing her on stress steroids
    - continue stress dose steroids for 7 day course
   # Social situation
 social work is involved
   -Son in from [**Country 8643**]
   -He remains the HCP, new form filled out yesterday and the pt
   daughter-in-law and the pt
s boyfriend will be secondary contacts in
   the event that her son needs to return to [**Country 8643**]
   - Family is aware of her HIV and Hep C status (they do not openly
   discuss it, however)
   # FEN: No IVF, replete electrolytes per renal, place NGT and consider
   starting TF
   # Prophylaxis: pneumoboots, no SQ hep in setting of coagulopathy
   # Access: PICC Line - [**2200-4-4**] 02:00 PM
   Arterial Line - [**2200-4-4**] 03:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   # Communication: Patient; HCP is son, - family is aware of HepC and HIV
   although they do not like to openly discuss this
   # Code:  Full (discussed with patient this morning while in respiratory
   distress).  Per report was confirmed last night as well.
   # Disposition: likely callout tomorrow morning assuming mental status
   continues to improve

2200-04-12 11:57:00 Physician Attending Progress Note
Chief Complaint: Hepatic encephalopathy, cirrhosis, Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still confused but slightly less so and more verbal
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Meropenem - [**2200-4-11**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-12**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Psychiatric / Sleep: Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-4-12**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.4
C (95.7
   HR: 61 (57 - 71) bpm
   BP: 121/62(76) {81/61(70) - 152/91(98)} mmHg
   RR: 17 (6 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 120 kg
   Height: 65 Inch
             Total In:
                                                                  1,040 mL
                                                                    417 mL
   PO:
             TF:
                                                                    620 mL
                                                                    317 mL
   IVF:
                                                                    120 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                     80 mL
   Urine:
                                                                    230 mL
                                                                     80 mL
   NG:
                                                                    120 mL
   Stool:
                                                                  1,800 mL
   Drains:
   Balance:
                                                                 -1,111 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, still confused
   but more verbal
   Labs / Radiology
   7.6 g/dL
   39 K/uL
   164 mg/dL
   1.9 mg/dL
   26 mEq/L
   3.3 mEq/L
   39 mg/dL
   107 mEq/L
   140 mEq/L
   23.5 %
   4.0 K/uL
        [image002.jpg]
                             [**2200-4-9**]  03:16 PM
                             [**2200-4-9**]  09:34 PM
                             [**2200-4-9**]  09:45 PM
                             [**2200-4-9**]  09:48 PM
                             [**2200-4-10**]  03:51 AM
                             [**2200-4-10**]  04:04 AM
                             [**2200-4-10**]  03:49 PM
                             [**2200-4-11**]  03:24 AM
                             [**2200-4-11**]  04:53 PM
                             [**2200-4-12**]  04:26 AM
   WBC
   5.1
   4.5
   4.5
   4.5
   4.0
   Hct
   23.6
   24.5
   24.4
   22.4
   23.7
   23.5
   Plt
   34
   46
   28
   33
   39
   39
   Cr
   0.9
   0.9
   1.7
   1.9
   TCO2
   27
   28
   Glucose
   115
   114
   167
   164
   Other labs: PT / PTT / INR:19.1/39.1/1.7, ALT / AST:16/44, Alk Phos / T
   Bili:89/2.1, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:61 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.5 g/dL, LDH:220 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   45F HIV (well controlled), HCV (poorly controlled) c/b ESLD, portal
   HTN, s/p TIPS for hydrothorax. prior GIB admitted with SBP and ARF/HRS
   with subsequent hypotension.  Likely encephalopathy
   ESLD/Hepatic encephalopathy: MS much improved in that she is much more
   vebal though she is still very confused
   renal failure: HD today - tolerating getting fluid off.  Cont midodrine
   and octreotide
   ID: Meropenem for ESBL Klebs in urine.  Cont HAART.  Cont vanc for SBP.
   Adrenal insufficiency: Cont hydrocort taper
   Thrombocytopenia/?DIC: Stable
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2200-04-13 07:01:00 Physician Resident Progress Note
Chief Complaint:   Respiratory Distress
   24 Hour Events:
    Had no major overnight events, mental status is improving.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Meropenem - [**2200-4-12**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-12**] 07:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-13**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 68 (57 - 75) bpm
   BP: 125/66(82) {114/59(73) - 143/75(91)} mmHg
   RR: 14 (12 - 42) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 120 kg
   Height: 65 Inch
                  Total In:
                                                                  1,000 mL
                                                                    290 mL
   PO:
                  TF:
                                                                    720 mL
                                                                    210 mL
   IVF:
                                                                    120 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                  1,010 mL
   Urine:
                                                                    150 mL
                                                                    110 mL
   NG:
   Stool:
   900 mL
   Drains:
                                                                    250 mL
   Balance:
                                                                 -2,400 mL
                                                                   -720 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Gen: NAD, responding to questions this morning
   HEENT:  NGT in place, mouth/nose slightly dry
   Pulm:  CTA anteriorly
   CV:  RRR, 3/6 systolic murmur all areas, best at LSB
   Peripheral Vascular: pulses intact, + edema of all extremities, but
   improved
   Skin:  warm, dry
   Neurologic: alert, oriented to person and place, follows commands, no
   focal deficits
   Labs / Radiology
   58 K/uL
   7.5 g/dL
   165 mg/dL
   1.5 mg/dL
   29 mEq/L
   3.9 mEq/L
   36 mg/dL
   110 mEq/L
   142 mEq/L
   21.8 %
   4.5 K/uL
        [image002.jpg]
                             [**2200-4-9**]  09:45 PM
                             [**2200-4-9**]  09:48 PM
                             [**2200-4-10**]  03:51 AM
                             [**2200-4-10**]  04:04 AM
                             [**2200-4-10**]  03:49 PM
                             [**2200-4-11**]  03:24 AM
                             [**2200-4-11**]  04:53 PM
                             [**2200-4-12**]  04:26 AM
                             [**2200-4-12**]  05:23 PM
                             [**2200-4-13**]  04:29 AM
   WBC
   5.1
   4.5
   4.5
   4.5
   4.0
   5.0
   4.5
   Hct
   23.6
   24.5
   24.4
   22.4
   23.7
   23.5
   23.3
   21.8
   Plt
   34
   46
   28
   33
   39
   39
   49
   58
   Cr
   0.9
   1.7
   1.9
   1.3
   1.5
   TCO2
   28
   Glucose
   115
   114
   167
   164
   157
   165
   Other labs: PT / PTT / INR:19.3/40.4/1.8, ALT / AST:19/47, Alk Phos / T
   Bili:87/2.2, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:61 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.3 g/dL, LDH:228 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   45 y/o F with HIV and Hep C cirrhosis who presents from OSH for
   management of SBP and HRS who had acute respiratory decompensation in
   the setting of fluid overload.
   # Altered Mental Status: Improving this morning. [**4-9**] the patient had
   altered mental status and became nonverbal.  Diff dx includes hepatic
   encephalopathy, ICH (less likely in setting of negative CT), delirium,
   ileus.  Head CT was negative.  No obvious seizure activity.  Patient
   was continued on lactulose and menatal status has steadily improved
   with increased bowel movements.
   - Continue lactulose 30q6hr
   - On rifaximin
   - Check blood/urine cx
   - Closely follow mental status
   # Respiratory Distress/Volume Overload: Pt
s overall respiratory
   function markedly improved. Now extubated and breathing comfortably on
   2L NC, hemodynamically stable.  CVVH removed about 16 liters and the
   patient was then transitioned to HD.
   - Continuing HD per renal recs
   - Appreciate renal recs
   #Hypotension: Resolved. Maintaining SBPs in 100s-120s, off pressors.
   - MAP goal >55
   - Continuing stress dose steroids 50 mg q12h and plan to taper tomorrow
   per guideline:
   Dosing schedule
   Hydrocortisone 50 mg IV every 6 h or 100-mg bolus then 10
   mg/h continuous infusion for at least 7 d with option of
   treatment for 10 to 14 d. Patients should be vasopressor and
   ventilator
free
 before taper
   Hydrocortisone taper
   Hydrocortisone 50 mg IV every 8 h for 3 to 4 d
   Hydrocortisone 50 mg IV/po every 12 h for 3 to 4 d
   Hydrocortisone 50 mg IV/po daily for 3 to 4 d
   Reinstitution of full-dose hydrocortisone with recurrence of
   hemodynamic instability
   - Therefore will give 50mg qday x 4 days (finish on [**4-16**])
   # Anemia/Thrombocytopenia: Possible DIC: initially with anemia and
   thrombocytopenia concerning for DIC, fibrinogen had increased, however
   now decreased again.  No obvious source of bleeding. Platelets are
   improving somewhat.
   - Transfuse for Hct<21, Platelets <10 or signs of active bleeding
   - PM CBC, will re-visit transfusion on repeat CBC given lower Hct
   today.
   - epogen with HD
   # ARF: likely is oliguric renal failure secondary to hepatic renal
   syndrome. She is on octreotide and midodrine. Electrolytes stable.  UOP
   100cc/day, although somewhat improved over the last 48 hours.
   - continue octreotide and midodrine
   - f/u renal recs
   - renally dose HIV medications
   - Change meropenem to 1g q24 per pharmacy
   - HD line in place for potential CVVH vs. HD for volume removal
   # SBP: has hx of SBP from outside hospital and was being treated with
   ciprofloxacin. Vanco added last night for broader coverage. Culture
   data from OSH negative.
   - Meropenem for ESBP UTI as well x 10days (On day 6 of 10)
   - continue current abx (ciprofloxacin, per ID recs).
   - albumin daily once respiratory status stabilized
   # Hep C / Cirrhosis: has complicated Hep C cirrhosis with ascites and
   drain on R side of abdomen, s/p TIPS procedures and coagulopathy. Bili
   bumped today without other LFT changes.  Started on Rifaximin on [**4-12**].
   - f/u liver recs
   - continue SBP treatment as outlined above
   - continue lactulose/rifaximin
   - follow up liver US with Doppler
 no ascites
   - trend LFTs
   # Coagulopathy: again in the setting of chronic liver disease; INR 1.8
   today
   - transfuse two units FFP pre-procedure if needed
   # HIV: stable, CD4 count high without evidence of AIDS.
   - Continue HIV meds (pt. now taking PO)
   - continue HAART meds, redose her meds per pharmacy
   # Hyponatremia
resolved
   # Hypothyroidism: TSH here 3.5, not probably accurate in setting of an
   accute illness.
   - continue home levothyroxine dose
   # COPD: Initial respiratory distress likely due to fluid overload as
   opposed to COPD flare.  Has now been stable.
   - consider nebulizers as needed
   # Adrenal Insufficiency: Pt. had refractory hypotension and failed [**Last Name (un) **]
   stim test during early admission.  Continuing her on stress steroids
   with taper as outlined above
   # Social situation
 social work is involved
   -Son in from [**Country 8643**]
   -He remains the HCP, new form filled out and in chart and the pt
   daughter-in-law and the pt
s boyfriend will be secondary contacts in
   the event that her son needs to return to [**Country 8643**]
   - Family is aware of her HIV and Hep C status (they do not openly
   discuss it, however)
   # FEN: No IVF, replete electrolytes per renal, continue on tube feeds
   # Prophylaxis: pneumoboots,
   - SQ heparin today given platelets up-trending
   # Access: PICC Line - [**2200-4-4**] 02:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   # Communication: Patient; HCP is son, - family is aware of HepC and HIV
   although they do not like to openly discuss this
   # Code:  Full (discussed with patient this morning while in respiratory
   distress).  Per report was confirmed last night as well.
   # Disposition: likely callout today assuming mental status continues to
   improve.

2200-04-13 12:15:00 Physician Attending Progress Note
Chief Complaint: Hepatic Encephalopathy, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to be confused but verbal
   24 Hour Events:
 CALLED OUT
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Meropenem - [**2200-4-12**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-13**] 08:49 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Psychiatric / Sleep: Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-4-13**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 57 (57 - 77) bpm
   BP: 150/72(92) {114/59(73) - 150/72(92)} mmHg
   RR: 42 (12 - 42) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 91.5 kg (admission): 120 kg
   Height: 65 Inch
             Total In:
                                                                  1,000 mL
                                                                    798 mL
   PO:
             TF:
                                                                    720 mL
                                                                    368 mL
   IVF:
                                                                    120 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                  1,110 mL
   Urine:
                                                                    150 mL
                                                                    210 mL
   NG:
   Stool:
   900 mL
   Drains:
                                                                    250 mL
   Balance:
                                                                 -2,400 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, confused
   Labs / Radiology
   7.5 g/dL
   58 K/uL
   165 mg/dL
   1.5 mg/dL
   29 mEq/L
   3.9 mEq/L
   36 mg/dL
   110 mEq/L
   142 mEq/L
   21.8 %
   4.5 K/uL
        [image002.jpg]
                             [**2200-4-9**]  09:45 PM
                             [**2200-4-9**]  09:48 PM
                             [**2200-4-10**]  03:51 AM
                             [**2200-4-10**]  04:04 AM
                             [**2200-4-10**]  03:49 PM
                             [**2200-4-11**]  03:24 AM
                             [**2200-4-11**]  04:53 PM
                             [**2200-4-12**]  04:26 AM
                             [**2200-4-12**]  05:23 PM
                             [**2200-4-13**]  04:29 AM
   WBC
   5.1
   4.5
   4.5
   4.5
   4.0
   5.0
   4.5
   Hct
   23.6
   24.5
   24.4
   22.4
   23.7
   23.5
   23.3
   21.8
   Plt
   34
   46
   28
   33
   39
   39
   49
   58
   Cr
   0.9
   1.7
   1.9
   1.3
   1.5
   TCO2
   28
   Glucose
   115
   114
   167
   164
   157
   165
   Other labs: PT / PTT / INR:19.3/40.4/1.8, ALT / AST:19/47, Alk Phos / T
   Bili:87/2.2, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:61 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.3 g/dL, LDH:228 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   45F HIV (well controlled), HCV (poorly controlled) c/b ESLD, portal
   HTN, s/p TIPS for hydrothorax. prior GIB admitted with SBP and ARF/HRS
   with subsequent hypotension.  Has been hemodynamically stable for
   several days and tolerating HD.  Ongoing hepatic encephalopathy but
   general trend improving over last 2-3 days.
   ESLD/Hepatic encephalopathy: Cont lactulose/rifaxamin
   renal failure: HD today per renal.  Cont midodrine and octreotide.
   Starting to produce some urine on her own
   ID: Meropenem for ESBL Klebs in urine.  Cont HAART.  Cont vanc for SBP.
   Adrenal insufficiency: Cont hydrocort taper
   Thrombocytopenia/?DIC: Platelets trending upward
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-4-13**] 11:14 AM 30.[**Telephone/Fax (5) 12113**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   Addendum: Ms. [**Known lastname 11926**] just had an episode of desaturation to the 70s and
   appeared to be taking only very shallow breaths.  Though awake, she was
   less interactive than earlier in the morning.  AM CXR today actually
   shows improved infiltrates.  ABG drawn.  Sats improved with stimulation
   and placement on NRB mask to 99%.  Will keep her in the MICU given
   these events.
   Patient is critically ill.  Time spent 33 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2200-4-13**] 12:32 ------

2200-04-14 07:29:00 Physician Resident Progress Note
24 Hour Events:
   Pt. with worsening mental status and period of apnea, taking slow
   shallow breaths.  ABGs showed acidemia with hypercarcbia.  Pt. was
   trialed on BiPap and the decision was then made to intubate.  RSI was
   done with propofol and etomidate.  A-line was placed.
   Repeat CT of the head was done showing:
   1. No evidence of hemorrhage. If persistent concern for subtle acute
   intracranial abnormality, MRI would be more sensitive for evaluation if
   clinically indicated.
   2. Stable opacification of right maxillary sinus and mucosal thickening
   of the left sphenoid sinus. Recommend correlation for sinusitis.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Meropenem - [**2200-4-13**] 12:05 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-4-13**] 12:31 PM
   Propofol - [**2200-4-13**] 03:52 PM
   Pantoprazole (Protonix) - [**2200-4-13**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-14**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36
C (96.8
   HR: 53 (46 - 94) bpm
   BP: 145/69(96) {138/69(96) - 209/97(135)} mmHg
   RR: 14 (9 - 50) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 120 kg
   Height: 65 Inch
             Total In:
                                                                  1,464 mL
                                                                    148 mL
   PO:
             TF:
                                                                    630 mL
                                                                     71 mL
   IVF:
                                                                    174 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                     95 mL
   Urine:
                                                                    435 mL
                                                                     95 mL
   NG:
   Stool:
                                                                  1,750 mL
   Drains:
                                                                    125 mL
   Balance:
                                                                   -846 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 340 (340 - 381) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.41/46/189/26/4
   Ve: 6.5 L/min
   PaO2 / FiO2: 473
   Physical Examination
   Labs / Radiology
   60 K/uL
   7.8 g/dL
   182 mg/dL
   1.6 mg/dL
   26 mEq/L
   3.6 mEq/L
   53 mg/dL
   114 mEq/L
   146 mEq/L
   24.0 %
   3.7 K/uL
        [image002.jpg]
                             [**2200-4-13**]  04:29 AM
                             [**2200-4-13**]  12:32 PM
                             [**2200-4-13**]  02:00 PM
                             [**2200-4-13**]  02:52 PM
                             [**2200-4-13**]  03:20 PM
                             [**2200-4-13**]  05:54 PM
                             [**2200-4-13**]  07:53 PM
                             [**2200-4-14**]  02:23 AM
                             [**2200-4-14**]  02:40 AM
                             [**2200-4-14**]  06:04 AM
   WBC
   4.5
   5.9
   3.7
   Hct
   21.8
   26.8
   24.0
   Plt
   58
   72
   60
   Cr
   1.5
   1.6
   1.6
   TCO2
   34
   34
   33
   32
   32
   28
   30
   Glucose
   165
   151
   182
   Other labs: PT / PTT / INR:19.4/38.9/1.8, ALT / AST:21/51, Alk Phos / T
   Bili:97/2.4, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:61 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.4 g/dL, LDH:259 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   45 y/o F with HIV and Hep C cirrhosis who presents from OSH for
   management of SBP and HRS who had acute respiratory decompensation in
   the setting of fluid overload.
   # Altered Mental Status:  Continues to be an ongoing problem, with
   worsening mental status yesterday, despite ongoing optimal lactulose.
   Head CT continues to be negative. No obvious seizure activity.
    - will let wake up from propofol and extubate and evaluate post
   extubation mental status
    - if continues to be altered will pursue further neuro workup: LP, +/-
   MRI, +/- Neuro consult
    - if LP likely will require coag optimization
    - check thiamine and folate
    - continue lactulose 30q6hr
    - continue rifaximin
   # Respiratory Distress/Apnea/Volume Overload: Pt intubated following
   apenic episode. Tolerating vent well, good RSBI. Unclear what caused
   underlying apneic episode yesterday.
   - wean off vent today
   - extubate later this AM
   - continue abx for PNA
   #Hypotension: Resolved. Maintaining SBPs in 100s-120s, off pressors.
   - MAP goal >55
   - Continuing stress dose steroids 50 mg q12h and plan to taper tomorrow
   per guideline below
   # ARF: likely is oliguric renal failure secondary to hepatic renal
   syndrome. She is on octreotide and midodrine. Electrolytes stable.  UOP
   100cc/day, although somewhat improved over the last 48 hours. HD
   Saturday, now with flat creatinine.
   - holding off on HD today
   - continue octreotide and midodrine
   - f/u renal recs
   - renally dose HIV medications
   - change meropenem to 1g q12 per pharmacy
   # Anemia/Thrombocytopenia: Possible DIC: initially with anemia and
   thrombocytopenia concerning for DIC, fibrinogen had increased, however
   now decreased again. No obvious source of bleeding. Platelets are
   improving somewhat.
   - Transfuse for Hct<21, Platelets <10 or signs of active bleeding
   - epogen with HD
   - check PM CBC
   # SBP: has hx of SBP from outside hospital and was being treated with
   ciprofloxacin. Vanco added last night for broader coverage. Culture
   data from OSH negative.
   - Meropenem for ESBP UTI as well x 10days (On day 6 of 10)
   - continue current abx (ciprofloxacin, per ID recs).
   - albumin daily once respiratory status stabilized
   # HIV: stable, CD4 count high without evidence of AIDS.
   - Continue HIV meds (pt. now taking PO)
   - continue HAART meds, redose her meds per pharmacy
   # Hep C / Cirrhosis: has complicated Hep C cirrhosis with ascites and
   drain on R side of abdomen, s/p TIPS procedures and coagulopathy. Bili
   bumped today without other LFT changes.  Started on Rifaximin on [**4-12**].
   - f/u liver recs
   - continue SBP treatment as outlined above
   - continue lactulose/rifaximin
   - follow up liver US with Doppler
 no ascites
   - trend LFTs
   # Coagulopathy: again in the setting of chronic liver disease; INR 1.8
   today
   - transfuse two units FFP pre-procedure if needed
   # Hypernatremia
   - add free water flushes to tube feeds, 50 q6
   # Hypothyroidism: TSH here 3.5, not probably accurate in setting of an
   accute illness.
   - continue home levothyroxine dose
   # COPD: Initial respiratory distress likely due to fluid overload as
   opposed to COPD flare.  Has now been stable.
   - consider nebulizers as needed
   # Adrenal Insufficiency: Pt. had refractory hypotension and failed [**Last Name (un) **]
   stim test during early admission.  Continuing her on stress steroids
   with taper.
   Dosing:
   -Hydrocortisone 50 mg IV every 6 h or 100-mg bolus then 10 mg/h
   continuous infusion for at least 7 d with option of treatment for 10 to
   14 d. Patients should be vasopressor and ventilator
free
 before
   taper.
   -Reinstitution of full-dose hydrocortisone with recurrence of
   hemodynamic instability
   -Therefore will give 50mg qday x 4 days (finish on [**4-16**])
   Hydrocortisone Taper
   Hydrocortisone 50 mg IV every 8 h for 3 to 4 d
   Hydrocortisone 50 mg IV/po every 12 h for 3 to 4 d
   Hydrocortisone 50 mg IV/po daily for 3 to 4 d
   Reinstitution of full-dose hydrocortisone with recurrence of
   hemodynamic instability
   # Social situation
 social work is involved
   -Son in from [**Country 8643**]
   -He remains the HCP, new form filled out and in chart and the pt
   daughter-in-law and the pt
s boyfriend will be secondary contacts in
   the event that her son needs to return to [**Country 8643**]
   - Family is aware of her HIV and Hep C status (they do not openly
   discuss it, however)
   # FEN: No IVF, replete electrolytes per renal, continue on tube feeds
   # Prophylaxis: pneumoboots,
   - SQ heparin today given platelets up-trending
   # Access: PICC Line - [**2200-4-4**] 02:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   # Communication: Patient; HCP is son, - family is aware of HepC and HIV
   although they do not like to openly discuss this
   # Code:  Full (discussed with patient this morning while in respiratory
   distress).  Per report was confirmed last night as well.
   # Disposition: likely callout today assuming mental status continues to
   improve.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Arterial Line - [**2200-4-13**] 06:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-04-14 10:38:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis, Hepatic encephalopathy, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Reintubated yestrday after having periods of apnea with rise in pCO2 to
   90s.  Did not have improvement with NIPPV.
   RSBI in 40s this AM and doing well on SBT
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2200-4-13**] 02:30 PM
 BLOOD CULTURED - At [**2200-4-13**] 03:15 PM
 BLOOD CULTURED - At [**2200-4-13**] 04:00 PM
 NON-INVASIVE VENTILATION - STOP [**2200-4-13**] 04:02 PM
 INVASIVE VENTILATION - START [**2200-4-13**] 04:03 PM
 URINE CULTURE - At [**2200-4-13**] 06:49 PM
 ARTERIAL LINE - START [**2200-4-13**] 06:57 PM
   History obtained from [**Hospital 19**] Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Meropenem - [**2200-4-13**] 12:05 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-4-13**] 12:31 PM
   Propofol - [**2200-4-13**] 03:52 PM
   Pantoprazole (Protonix) - [**2200-4-13**] 08:04 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley, Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-4-14**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 58 (46 - 94) bpm
   BP: 142/71(97) {138/68(95) - 209/97(135)} mmHg
   RR: 18 (9 - 50) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83.4 kg (admission): 120 kg
   Height: 65 Inch
             Total In:
                                                                  1,464 mL
                                                                    131 mL
   PO:
             TF:
                                                                    630 mL
                                                                     71 mL
   IVF:
                                                                    174 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                    120 mL
   Urine:
                                                                    435 mL
                                                                    120 mL
   NG:
   Stool:
                                                                  1,750 mL
   Drains:
                                                                    125 mL
   Balance:
                                                                   -846 mL
                                                                     11 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 246 (246 - 381) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 5 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.41/46/189/26/4
   Ve: 9.1 L/min
   PaO2 / FiO2: 473
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   60 K/uL
   182 mg/dL
   1.6 mg/dL
   26 mEq/L
   3.6 mEq/L
   53 mg/dL
   114 mEq/L
   146 mEq/L
   24.0 %
   3.7 K/uL
        [image002.jpg]
                             [**2200-4-13**]  04:29 AM
                             [**2200-4-13**]  12:32 PM
                             [**2200-4-13**]  02:00 PM
                             [**2200-4-13**]  02:52 PM
                             [**2200-4-13**]  03:20 PM
                             [**2200-4-13**]  05:54 PM
                             [**2200-4-13**]  07:53 PM
                             [**2200-4-14**]  02:23 AM
                             [**2200-4-14**]  02:40 AM
                             [**2200-4-14**]  06:04 AM
   WBC
   4.5
   5.9
   3.7
   Hct
   21.8
   26.8
   24.0
   Plt
   58
   72
   60
   Cr
   1.5
   1.6
   1.6
   TCO2
   34
   34
   33
   32
   32
   28
   30
   Glucose
   165
   151
   182
   Other labs: PT / PTT / INR:19.4/38.9/1.8, ALT / AST:21/51, Alk Phos / T
   Bili:97/2.4, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:61 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.4 g/dL, LDH:259 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DELIRIUM / CONFUSION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   45F HIV (well controlled), HCV (poorly controlled) c/b ESLD, portal
   HTN, s/p TIPS for hydrothorax. prior GIB admitted with SBP and ARF/HRS
   with subsequent hypotension.  Has been hemodynamically stable for
   several days and tolerating HD.  Ongoing hepatic encephalopathy.
   Apneic episode of unclear etiology yesterday and intubated.  Rspiratory
   drive now appears intact.
   ESLD/Hepatic encephalopathy: Cont lactulose/rifaxamin.  3rd head CT
   normal yesterday.  If post-extubation today MS does not improve, will
   need to consider reversal of coagulopathy in anticipation of LP
   renal failure: HD per renal.  Cont midodrine/octreotide.  Over 400cc of
   urine yesterday
   ID: Meropenem for ESBL Klebs in urine.  Cont HAART.  Cont vanc for SBP.
   Adrenal insufficiency: Cont hydrocort taper
   Thrombocytopenia/?DIC: Platelets stable.  Recheck fibrinogen if doing
   LP
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Arterial Line - [**2200-4-13**] 06:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2200-04-15 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Blood pressure ran high to 160s yesterday PM. Remains delirious but
   interactive
   - This AM reported [**4-2**] mild abdominal pain in RLQ.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Meropenem - [**2200-4-14**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-15**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96
   HR: 66 (46 - 70) bpm
   BP: 154/79(108) {136/63(89) - 175/129(137)} mmHg
   RR: 19 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.4 kg (admission): 120 kg
   Height: 65 Inch
                  Total In:
                                                                    960 mL
                                                                    397 mL
   PO:
                  TF:
                                                                    445 mL
                                                                    217 mL
   IVF:
                                                                    255 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    330 mL
   Urine:
                                                                    320 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -460 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 246 (246 - 246) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 5 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 9.1 L/min
   Physical Examination
 performed by Archana Sridhar, MS4
   Mental Status: alert, awake, answered questions appropriately. Very
   talkative. Some statements inappropriate
   CV: III/VI systolic murmur at LLSB
   Lungs: CTAB anteriorly
   Abdomen: Soft, nontender, nondistended, bowel sounds present. Mild
   tenderness to palpation around abdominal dressing, no guarding or
   rebound.
   Extremities: warm and well-perfused, no edema.
   Labs / Radiology
   64 K/uL
   7.6 g/dL
   149 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.2 mEq/L
   73 mg/dL
   117 mEq/L
   150 mEq/L
   22.3 %
   3.9 K/uL
        [image002.jpg]
                             [**2200-4-13**]  02:00 PM
                             [**2200-4-13**]  02:52 PM
                             [**2200-4-13**]  03:20 PM
                             [**2200-4-13**]  05:54 PM
                             [**2200-4-13**]  07:53 PM
                             [**2200-4-14**]  02:23 AM
                             [**2200-4-14**]  02:40 AM
                             [**2200-4-14**]  06:04 AM
                             [**2200-4-14**]  03:51 PM
                             [**2200-4-15**]  04:34 AM
   WBC
   5.9
   3.7
   5.0
   3.9
   Hct
   26.8
   24.0
   23.9
   22.3
   Plt
   72
   60
   71
   64
   Cr
   1.6
   1.6
   1.4
   TCO2
   34
   33
   32
   32
   28
   30
   Glucose
   151
   182
   149
   Other labs: PT / PTT / INR:17.8/41.0/1.6, ALT / AST:20/45, Alk Phos / T
   Bili:97/2.2, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:61 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.4 g/dL, LDH:259 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.9
   mg/dL
   Micro:
[**2200-4-13**] 6:45 pm URINE      Source: Catheter.
   URINE CULTURE (Preliminary):
      YEAST.    >100,000 ORGANISMS/ML..
   Blood cultures--Pending
   Assessment and Plan
   45 y/o F with HIV and Hep C cirrhosis who presents from OSH for
   management of SBP and HRS who had acute respiratory decompensation in
   the setting of fluid overload.
   # Altered Mental Status:  Improving. Continues to be an ongoing
   problem, with worsening mental status yesterday, despite ongoing
   optimal lactulose. All head imaging to date negative. No obvious
   seizure activity. Likely hepatic encephalopathy with renal failure.
   - continue lactulose 30q6hr
   - continue rifaximin
   - Giving thiamine and folate
   - Can hold off on further work-up for now given improving mental status
   (no need for LP or neuro consult)
   # Respiratory Distress/Apnea/Volume Overload: Post extubation, no more
   apneic episodes
   - Continue to monitor for further apneic events
   # ARF: likely is oliguric renal failure secondary to hepatic renal
   syndrome. Creatinine is downtrending and she is increasing her urine
   output. She is on octreotide and midodrine. Creatinine down-trending.
   - renal continuing to hold off on HD for now given improvement.
   - f/u with liver/renal about continuing v. DC
ing octreotide and
   midodrine
   - f/u final renal recs
   - renally dose HIV medications and antibiotics
   # Hypernatremia
Na 150, up from 146. Likely due to relative
   dehydration. [**Name2 (NI) **] water deficit around 3.5
   - Increase free water flushes (currently 50q6; change to 250q4)
   - Give D5W @ 100cc/hr x 2L
   - F/u PM lytes
   # Hypertension
unclear reason for hypertension, but since midnight BPs
   in 130s-170s.
   - Continue to monitor BPs
   - restart  home dose of amlodipine 10mg qday
   # Anemia/Thrombocytopenia: Stable. Multiple etiologies likely,
   including HIV, Hep C, previous concern of DIC. No obvious source of
   bleeding. Platelets are improving.
   - Transfuse for Hct<21, Platelets <10 or signs of active bleeding
   - check PM CBC, liver recommends hemolysis labs
   # ESBL UTI
   - On meropenem x10 days. Today is day 9 of 10 (started on [**2200-4-7**])
   - Change Foley as urine culture grew yeast
   # SBP: has hx of SBP from outside hospital and was being treated with
   ciprofloxacin. Resolved. Culture data from OSH negative. S/p course of
   ciprofloxacin and vancomycin.
   - Continue daily abdominal exams. Current exam stable.
   # Adrenal Insufficiency: Pt. had refractory hypotension and failed [**Last Name (un) **]
   stim test during early admission.  Continuing her on stress steroids
   with taper.
   Dosing:
   -Hydrocortisone 50 mg IV every 6 h or 100-mg bolus then 10 mg/h
   continuous infusion for at least 7 d with option of treatment for 10 to
   14 d. Patients should be vasopressor and ventilator
free
 before
   taper.
   -Reinstitution of full-dose hydrocortisone with recurrence of
   hemodynamic instability
   -Therefore will give 50mg qday x 4 days (finish on [**4-16**])
   Hydrocortisone Taper
   Hydrocortisone 50 mg IV every 8 h for 3 to 4 d
   Hydrocortisone 50 mg IV/po every 12 h for 3 to 4 d
   Hydrocortisone 50 mg IV/po daily for 3 to 4 d
   Reinstitution of full-dose hydrocortisone with recurrence of
   hemodynamic instability
   - Now on 50 mg qday
 day 2 of this dose, will DC on [**4-16**]
   # Hep C / Cirrhosis: has complicated Hep C cirrhosis with ascites and
   drain on R side of abdomen, s/p TIPS procedures and coagulopathy. Bili
   bumped today without other LFT changes.  Started on Rifaximin on [**4-12**].
   - f/u liver recs
   - continue lactulose/rifaximin
   - trend LFTs; currently stable
   - Continue to monitor INR in the setting of coagulopathy from chronic
   liver disease. Currently stable at 1.6
   # HIV: stable, CD4 count high without evidence of AIDS.
   - Continue HIV meds (pt. now taking PO)
   - continue HAART meds, redose her meds per pharmacy
   # Hypothyroidism: TSH here 3.5, not probably accurate in setting of an
   accute illness.
   - continue home levothyroxine dose
   # Adrenal Insufficiency: Pt. had refractory hypotension and failed [**Last Name (un) **]
   stim test during early admission.  Continuing her on stress steroids
   with taper.
   Dosing:
   -Hydrocortisone 50 mg IV every 6 h or 100-mg bolus then 10 mg/h
   continuous infusion for at least 7 d with option of treatment for 10 to
   14 d. Patients should be vasopressor and ventilator
free
 before
   taper.
   -Reinstitution of full-dose hydrocortisone with recurrence of
   hemodynamic instability
   -Therefore will give 50mg qday x 4 days (finish on [**4-16**])
   Hydrocortisone Taper
   Hydrocortisone 50 mg IV every 8 h for 3 to 4 d
   Hydrocortisone 50 mg IV/po every 12 h for 3 to 4 d
   Hydrocortisone 50 mg IV/po daily for 3 to 4 d
   Reinstitution of full-dose hydrocortisone with recurrence of
   hemodynamic instability
   # Social situation
 social work is involved
   -Son in from [**Country 8643**]
   -He remains the HCP, new form filled out and in chart and the pt
   daughter-in-law and the pt
s boyfriend will be secondary contacts in
   the event that her son needs to return to [**Country 8643**]
   - Family is aware of her HIV and Hep C status (they do not openly
   discuss it, however)
   # FEN: No IVF, replete electrolytes per renal, continue on tube feeds
   # Prophylaxis: pneumoboots,
   - SQ heparin today given platelets up-trending
   # Access: PICC Line - [**2200-4-4**] 02:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   A-Line
 [**2200-4-13**]
   # Communication: Patient; HCP is son, - family is aware of HepC and HIV
   although they do not like to openly discuss this
   # Code:  Full (discussed with patient this morning while in respiratory
   distress).  Per report was confirmed last night as well.
   # Disposition: ICU for next day, call out tomorrow

2200-04-15 09:41:00 Physician Attending Progress Note
Chief Complaint: Hepatic encephalopathy, Cirrhosis, Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mental status much improved - pt still confused but conversive and
   interactive
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2200-4-14**] 11:30 AM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Meropenem - [**2200-4-14**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-4-15**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 59 (46 - 70) bpm
   BP: 164/86(115) {136/63(89) - 175/129(137)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 120 kg
   Height: 65 Inch
                  Total In:
                                                                    960 mL
                                                                    583 mL
   PO:
                  TF:
                                                                    445 mL
                                                                    283 mL
   IVF:
                                                                    255 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    465 mL
   Urine:
                                                                    320 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -460 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive but
   still confused
   Labs / Radiology
   7.6 g/dL
   64 K/uL
   149 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.2 mEq/L
   73 mg/dL
   117 mEq/L
   150 mEq/L
   22.3 %
   3.9 K/uL
        [image002.jpg]
                             [**2200-4-13**]  02:00 PM
                             [**2200-4-13**]  02:52 PM
                             [**2200-4-13**]  03:20 PM
                             [**2200-4-13**]  05:54 PM
                             [**2200-4-13**]  07:53 PM
                             [**2200-4-14**]  02:23 AM
                             [**2200-4-14**]  02:40 AM
                             [**2200-4-14**]  06:04 AM
                             [**2200-4-14**]  03:51 PM
                             [**2200-4-15**]  04:34 AM
   WBC
   5.9
   3.7
   5.0
   3.9
   Hct
   26.8
   24.0
   23.9
   22.3
   Plt
   72
   60
   71
   64
   Cr
   1.6
   1.6
   1.4
   TCO2
   34
   33
   32
   32
   28
   30
   Glucose
   151
   182
   149
   Other labs: PT / PTT / INR:17.8/41.0/1.6, ALT / AST:20/45, Alk Phos / T
   Bili:97/2.2, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:61 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.4 g/dL, LDH:259 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DELIRIUM / CONFUSION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   45F HIV (well controlled), HCV (poorly controlled) c/b ESLD, portal
   HTN, s/p TIPS for hydrothorax. prior GIB admitted with SBP and ARF/HRS
   with subsequent hypotension.  Has been hemodynamically stable for
   several days and tolerating HD.  Ongoing hepatic encephalopathy - but
   improving.  MS much better than any point prior to last extubation
   ESLD/Hepatic encephalopathy: Cont lactulose/rifaxamin.  MS improved
   today - hold off on LP
   renal failure: There is evidence of renal recovery.  fH20 repletion for
   hypernatremia.  D/C midodrine/octreotide.  Holding off on further HD
   for time being
   ID: Meropenem for ESBL Klebs in urine (day [**10-3**])  Cont HAART.  Off of
   vanco.
   Adrenal insufficiency: Cont hydrocort taper - tomorrow will be the last
   day
   Thrombocytopenia/?DIC: Platelets stable.
   Anemia: Hct trending down - check hemolysis labs
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-4-15**] 04:08 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Arterial Line - [**2200-4-13**] 06:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2200-04-16 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Passed speech and swallow evaluation
   - BPs within acceptable range
   - AM CXR from yesterday wet read showed LLL opacity which may be
   atelectasis vs aspiration?
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Meropenem - [**2200-4-16**] 12:44 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-16**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.4
   HR: 56 (52 - 67) bpm
   BP: 155/79(100) {97/20(31) - 155/79(100)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 85.5 kg (admission): 120 kg
   Height: 65 Inch
             Total In:
                                                                  2,815 mL
                                                                    802 mL
   PO:
                                                                    400 mL
                                                                     60 mL
   TF:
                                                                    496 mL
   IVF:
                                                                  1,458 mL
                                                                    742 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    300 mL
   Urine:
                                                                    960 mL
                                                                    300 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  1,055 mL
                                                                    502 mL
   Physical Examination
   Mental Status: Awake. Alert to place, date, year. Attentive (spelled
world
 backwards and forward)
   CV: III/VI systolic murmur at LLSB
   Lungs: Clear to auscultation bilaterally anteriorly
   Abdomen: soft, nontender, nondistended, + bowel sounds
    Extremities: warm and well-perfused, no edema.
   Labs / Radiology
   78 K/uL
   7.7 g/dL
   124 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.7 mEq/L
   76 mg/dL
   117 mEq/L
   147 mEq/L
   23.7 %
   4.5 K/uL
        [image002.jpg]
   ALT 23, AST 56, Alk phos 99, LDH 287, Tbili 2.2, Direct 1.2
   Haptoglobin <5, fibrinogen 73, FDP 10-40
   Albumin 2.2
   PT 18.9, PTT 43.2, INR 1.7
                             [**2200-4-13**]  03:20 PM
                             [**2200-4-13**]  05:54 PM
                             [**2200-4-13**]  07:53 PM
                             [**2200-4-14**]  02:23 AM
                             [**2200-4-14**]  02:40 AM
                             [**2200-4-14**]  06:04 AM
                             [**2200-4-14**]  03:51 PM
                             [**2200-4-15**]  04:34 AM
                             [**2200-4-15**]  03:19 PM
                             [**2200-4-16**]  03:48 AM
   WBC
   5.9
   3.7
   5.0
   3.9
   2.9
   4.5
   Hct
   26.8
   24.0
   23.9
   22.3
   22.6
   23.7
   Plt
   72
   60
   71
   64
   77
   78
   Cr
   1.6
   1.6
   1.4
   1.3
   1.1
   TCO2
   32
   32
   28
   30
   Glucose
   151
   182
   149
   209
   124
   Other labs: PT / PTT / INR:18.9/43.2/1.7, ALT / AST:23/56, Alk Phos / T
   Bili:99/2.5, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:73 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.2 g/dL, LDH:287 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Mico: Urine culture pending
   Assessment and Plan
   45 y/o F with HIV and Hep C cirrhosis who presents from OSH for
   management of SBP and HRS who had acute respiratory decompensation in
   the setting of fluid overload.
   # Altered Mental Status: Improving. All head imaging to date negative.
   No obvious seizure activity. Likely hepatic encephalopathy with renal
   failure.
   - continue lactulose 30q6hr
   - continue rifaximin
   - giving thiamine and folate
   - hold off on further work-up for now given significantly improved
   mental status (no need for LP or neuro consult)
   # ARF: likely is oliguric renal failure secondary to hepatic renal
   syndrome. Creatinine is downtrending and she is increasing her urine
   output.
   - renal continuing to hold off on HD for now given improvement.
   - Renal will pull HD catheter today
   - f/u final renal recs
   - renally dose HIV medications and antibiotics
   - Currently off octeotride and midodrine
   # Hypernatremia
147 today, down from 150 after getting 2L D5Q and
   increased free water flushes. Likely due to relative dehydration. [**Name2 (NI) **]
   water deficit ~2.3.
   - As we advance her diet she will likely self-correct.
   - Give D5W @ 100cc/hr x 1L
   - F/u PM lytes
   # Respiratory Distress/Apnea/Volume Overload: Post extubation, no more
   apneic episodes
   - Continue to monitor for further apneic events
   - F/u final read of yesterday
s CXR
?aspiration, but now seems less
   likely
   # Anemia/Thrombocytopenia: Stable. Multiple etiologies likely,
   including HIV, Hep C, previous concern of DIC. No obvious source of
   bleeding. Platelets are improving. Hemolysis labs positive for ongoing
   hemolysis (increased LDH, decreased fibrinogen, increased total and
   indirect bilirubin, increased LDH). But these have been abnormal in
   past, and some of these markers may be explained by cirrhosis.
   - Check reticulocyte count.
   - F/u peripheral smear
   - Transfuse for Hct<21, Platelets <10 or signs of active bleeding
   - given INR will give FFP prior to pulling line
   # ESBL UTI
Foley changed yesterday
   - On meropenem x10 days. Today is day 10 of 10 (started on [**2200-4-7**])
   - d/c meropenem and start cipro prophylaxis tomorrow
   # SBP: has hx of SBP from outside hospital and was being treated with
   ciprofloxacin. Resolved. Culture data from OSH negative. S/p course of
   ciprofloxacin and vancomycin.
   - Continue daily abdominal exams. Current exam stable.
   # Hypertension
SBP in 130s and 140s mainly
   - Continue to monitor BPs
   - No need to restart home amlodipine today unless becomes significantly
   more hypertensive.
   # Adrenal Insufficiency: Pt. had refractory hypotension and failed [**Last Name (un) **]
   stim test during early admission.  Continuing her on stress steroids
   with taper.
   Dosing:
   - d/c steroids today, s/p steroid taper.
   # Hep C / Cirrhosis: has complicated Hep C cirrhosis with ascites and
   drain on R side of abdomen, s/p TIPS procedures and coagulopathy. Bili
   bumped today without other LFT changes.  Started on Rifaximin on [**4-12**].
   - f/u liver recs
   - continue lactulose/rifaximin
   - trend LFTs; currently stable
   - Continue to monitor INR in the setting of coagulopathy from chronic
   liver disease. Currently stable at 1.6
   # HIV: stable, CD4 count high without evidence of AIDS.
   - Continue HIV meds (pt. now taking PO)
   - continue HAART meds, redose her meds per pharmacy
   # Hypothyroidism: TSH here 3.5, not probably accurate in setting of an
   accute illness.
   - continue home levothyroxine dose
   # Social situation
 social work is involved
   -Son in from [**Country 8643**]
   -He remains the HCP, new form filled out and in chart and the pt
   daughter-in-law and the pt
s boyfriend will be secondary contacts in
   the event that her son needs to return to [**Country 8643**]
   - Family is aware of her HIV and Hep C status (they do not openly
   discuss it, however)
   # FEN: passed speech and swallow
   - D/c tube feeds
   - Advance diet as tolerated
   # Prophylaxis: pneumoboots, hold SCH until after line
   # Access: PICC Line - [**2200-4-4**] 02:00 PM and dialysis catheter
   - Renal will pull out dialysis catheter today.
   # Communication: Patient; HCP is son, - family is aware of HepC and HIV
   although they do not like to openly discuss this
   # Code:  Full (discussed with patient this morning while in respiratory
   distress).  Per report was confirmed last night as well.
   # Disposition: Call out today

2200-04-16 10:44:00 Physician Attending Progress Note
Chief Complaint: Hepatic encephalopathy, cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MS continues to improve - confused but conversing with family and team
   24 Hour Events:
 ARTERIAL LINE - STOP [**2200-4-15**] 02:10 PM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Meropenem - [**2200-4-16**] 12:44 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-4-16**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.4
C (95.8
   HR: 54 (52 - 67) bpm
   BP: 155/84(100) {97/20(31) - 155/86(100)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 120 kg
   Height: 65 Inch
             Total In:
                                                                  2,815 mL
                                                                    902 mL
   PO:
                                                                    400 mL
                                                                    160 mL
   TF:
                                                                    496 mL
   IVF:
                                                                  1,458 mL
                                                                    742 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    500 mL
   Urine:
                                                                    960 mL
                                                                    500 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  1,055 mL
                                                                    402 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive but
   confused
   Labs / Radiology
   7.7 g/dL
   78 K/uL
   124 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.7 mEq/L
   76 mg/dL
   117 mEq/L
   147 mEq/L
   23.7 %
   4.5 K/uL
        [image002.jpg]
                             [**2200-4-13**]  03:20 PM
                             [**2200-4-13**]  05:54 PM
                             [**2200-4-13**]  07:53 PM
                             [**2200-4-14**]  02:23 AM
                             [**2200-4-14**]  02:40 AM
                             [**2200-4-14**]  06:04 AM
                             [**2200-4-14**]  03:51 PM
                             [**2200-4-15**]  04:34 AM
                             [**2200-4-15**]  03:19 PM
                             [**2200-4-16**]  03:48 AM
   WBC
   5.9
   3.7
   5.0
   3.9
   2.9
   4.5
   Hct
   26.8
   24.0
   23.9
   22.3
   22.6
   23.7
   Plt
   72
   60
   71
   64
   77
   78
   Cr
   1.6
   1.6
   1.4
   1.3
   1.1
   TCO2
   32
   32
   28
   30
   Glucose
   151
   182
   149
   209
   124
   Other labs: PT / PTT / INR:18.9/43.2/1.7, ALT / AST:23/56, Alk Phos / T
   Bili:99/2.5, Differential-Neuts:95.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:1.0 %, Fibrinogen:73 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.2 g/dL, LDH:287 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DELIRIUM / CONFUSION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATORENAL SYNDROME
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   45F HIV (well controlled), HCV (poorly controlled) c/b ESLD, portal
   HTN, s/p TIPS for hydrothorax. prior GIB admitted with SBP and ARF/HRS
   with subsequent hypotension.  Much improved overall.  Ongoing but
   improving encephalopathy
   ESLD/Hepatic encephalopathy: Cont lactulose/rifaxamin.
   renal failure: Ongoing renal recovery with vigorous urine output.  Cont
   to follow Na and replete fH20 prn.
   ID: Meropenem for ESBL Klebs in urine (day [**11-2**])  Cont HAART.
   Tomorrow is last day of cipro for SBP ppx.
   Adrenal insufficiency: Complete hydrocort taper
   Thrombocytopenia/?DIC: FFP prior to HD line pull
   Anemia: Hct stable
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-4**] 02:00 PM
   Dialysis Catheter - [**2200-4-4**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: